2126-10-01 08:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2126-10-1**] 02:39 AM
 ARTERIAL LINE - START [**2126-10-1**] 06:12 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-10-1**] 04:56 AM
   Infusions:
   Norepinephrine - 0.22 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-10-1**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-1**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 81 (75 - 114) bpm
   BP: 95/59(73) {93/59(73) - 96/60(74)} mmHg
   RR: 25 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.4 kg (admission): 98.4 kg
    CVP: 22 (7 - 23)mmHg
   Total In:
                                                                  9,939 mL
   PO:
   TF:
   IVF:
                                                                  2,939 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    948 mL
   Urine:
                                                                    253 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  8,991 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.21/26/86.[**Numeric Identifier 143**]/13/-16
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   81 K/uL
   10.7 g/dL
   58 mg/dL
   0.7 mg/dL
   13 mEq/L
   3.2 mEq/L
   13 mg/dL
   110 mEq/L
   134 mEq/L
   32.5 %
   3.3 K/uL
        [image002.jpg]
                             [**2126-10-1**]  03:00 AM
                             [**2126-10-1**]  04:12 AM
                             [**2126-10-1**]  05:54 AM
   WBC
   3.3
   Hct
   35
   32.5
   Plt
   81
   Cr
   0.7
   TCO2
   11
   Glucose
   58
   Other labs: ALT / AST:32/69, Alk Phos / T Bili:85/3.7, Amylase /
   Lipase:45/14, Lactic Acid:6.0 mmol/L, Albumin:1.5 g/dL, Ca++:6.3 mg/dL,
   Mg++:1.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Assessment: 57 year old lady w/ PMhx of cryptogenic cirrhosis cx by
   varices with MELD score of 17, who has chronic total bilirubin of 2.0
   and INR of 1.8 to 2.0 presents with bright red blood per rectum,
   fevers, and resolving abdominal pain.
   Plan:
   1.  Hypotension - Likely secondary to underlying infection (sepsis
   secondary to gastroenteritis or cholangitis) vs hypovolemia (in setting
   of diarrhea and GI bleed)
   -Continue on pressor support: levophed
   -Start flagyl + cefepime (cefepime b/c neutropenia)
   -obtain mixed venous O2 sat to differentiate sepsis vs hypovolemia
   -IV hydration
   -holding nadolol
   -holding furosemide and spirinolactone
   -F/u blood cultures, stool studies, urine cultures
   2. Diarrhea:   Could be secondary to viral (adenovirus, [**Location (un) 10537**]) or
   bacterial (dysentery = Campylobacter, E Coli, Shigella) vs C
   difficile.
   -stool cultures
   -fecal leukocytes
   -stool O + P
   -C diff toxin
   .
   3.  Bright red blood per rectum: HCT fell from 37 -> 32 yesterday.
   Possible sources of BRBPR could be secondary to hemorrhoids,
   diverticula, ischemic colitis, infectious colitis, AVMs.  Recently took
   abx course for cellulitis which may have made her more coagulopathic
   and predisposed her to bleed (INR elevated at 2.2).  CT findings of
   edematous ascending colon and rectum concerning for ischemia especially
   in setting of rising lactate.
   -Maintain active type + screen
   -Follow HCTs q8 hours
   -transfuse if HCT falls below 21
   -IV PPI 40 mg [**Hospital1 7**]
   -Could be secondary to ischemia as well:  would track lactate for
   improvement.  If increasing suspicion, should notify surgery; they are
   aware.
   .
   4.  Elevated total bilirubin - Secondary to either decompensation of
   liver disease from acute stress of infection or due to obstructive
   picture.  Differential includes cholecysitis, cholangitis.
   -Check LFTs
   -Trend bilirubin
   -Amylase,lipase
   .
   5.  Coagulopathy:  INR is 2.2 (baseline is 1.8 - 2.0)
   -Recently got cephalosporine course for cellulitis as outpatient; may
   have depleted bowel flora -> low vitamin K -> increased INR.
   -Give Vitamin K
   .
   6.  Metabolic Acidosis - Gap metabolic acidosis likely secondary to
   increased lactate; also has diarrhea which could be a superimposed
   nongap acidosis.
   -For lactic acidosis continue to hydrate
   -For diarrhea, stool studies as above, continue abx coverage.
   -Continue to follow
   .
   7.  Cryptogenic cirrhosis
   -Holding nadolol, spirinolactone, and furosemide in setting of low BP
   .
   8. Hypoglycemia
 Sugars were low yesterday likely secondary to
   worsening hepatic function in setting of sepsis.
   -Continue D10W and check sugars q1.  As sugars fall, can come back on
   D10W and switch to D5.
   .
   9  Prophylaxis: hold SC heparin, pneumoboots, bowel regimen, IV PPI
   .
   10.  Code Status: Full (confirmed with family)
   .
   11.  Communication
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   18 Gauge - [**2126-10-1**] 02:41 AM
   Arterial Line - [**2126-10-1**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-02 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-02 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 COLONOSCOPY - At [**2126-10-1**] 06:10 PM
 STOOL CULTURE - At [**2126-10-2**] 01:02 AM
   O + P
 BLOOD CULTURED - At [**2126-10-2**] 03:25 AM
   - BP was going down and UOP reduced to 25cc/hr, given 4L D5 with
   Bicarb.
   - GI recommended flex sig to r/o ischemia given lactate
   - scope: No erythema, ulcers, or other findings to suggest ischemic or
   infectious colitis. (biopsy) Otherwise normal sigmoidoscopy to
   transverse colon.
   - [**Doctor First Name **]: no additional recs
   - Serial Hct - 32.5 --> 35.9 --> 36.9
   - Pt noted to have increased wheezing with IVF with HCO3 with no
   increase in O2 saturation, pt ordered for Albuterol nebs, repeat ABG
   ordered and similar to prior ABG. CXR showed some pulmonary edema, held
   HCO3 gtt.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-10-1**] 09:02 PM
   Metronidazole - [**2126-10-1**] 09:02 PM
   Cefipime - [**2126-10-2**] 05:23 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.19 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-10-1**] 10:04 PM
   Morphine Sulfate - [**2126-10-2**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-2**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 85 (81 - 96) bpm
   BP: 103/48(60) {84/41(53) - 111/63(68)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.4 kg (admission): 98.4 kg
    CVP: 15 (14 - 30)mmHg
   Mixed Venous O2% Sat: 77 - 77
   Total In:
                                                                 14,744 mL
                                                                    544 mL
   PO:
   TF:
   IVF:
                                                                  7,744 mL
                                                                    544 mL
   Blood products:
   Total out:
                                                                  1,678 mL
                                                                    300 mL
   Urine:
                                                                    733 mL
                                                                    300 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 13,066 mL
                                                                    244 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.36/36/121/22/-4
   Physical Examination
   Cardiovascular: (Murmur: Systolic), Gen: fidgeting, NAD
   Cardiac: RRR, Nl S1 S2, no m/r/g
   Lungs: reduced BS at bases, crackles to mid lung fields
   Ext: 1+ edema bilaterally
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   66 K/uL
   11.2 g/dL
   126 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.1 mEq/L
   22 mg/dL
   103 mEq/L
   133 mEq/L
   34.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2126-10-1**]  03:00 AM
                             [**2126-10-1**]  04:12 AM
                             [**2126-10-1**]  05:54 AM
                             [**2126-10-1**]  08:14 AM
                             [**2126-10-1**]  08:27 AM
                             [**2126-10-1**]  03:35 PM
                             [**2126-10-1**]  05:01 PM
                             [**2126-10-2**]  12:16 AM
                             [**2126-10-2**]  02:59 AM
                             [**2126-10-2**]  03:20 AM
   WBC
   3.3
   7.6
   10.0
   Hct
   35
   32.5
   35.9
   36.9
   34.5
   Plt
   81
   66
   Cr
   0.7
   0.8
   0.8
   TCO2
   11
   9
   12
   20
   21
   Glucose
   58
   121
   126
   Other labs: PT / PTT / INR:30.9/52.0/3.1, ALT / AST:41/94, Alk Phos / T
   Bili:52/3.9, Amylase / Lipase:45/14, Lactic Acid:6.1 mmol/L,
   Albumin:1.5 g/dL, Ca++:7.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR - bilateral pleural effusions, pulmonary edema
   Microbiology: Cdiff negative, O&P negative
   Stool cultures pending.
    Blood cultures + GNR.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices with
   MELD score of 17, who has chronic total bilirubin of 2.0 and INR of 1.8
   to 2.0 presents with bright red blood per rectum, fevers, diarrhea and
   apparent septic shock
   1.  Septic shock
 Pt has fever, elevated WBC.  Most likely secondary
   to underlying infection.  Symptoms currently support a GI source,
   likely toxin mediated gastroenteritis, strongyloides, salmonella,
   shigella, Ecoli.  She has bacteremia with GNR, speciation is pending.
    Cholangitis less likely given liver enzymes do not correspond and pt's
   exam is generally benign.   Also on the differential is SBP, although
   quantity of fluid in her abdomen is small and paracentesis would be
   complicated.  .
   -Continue on pressor support: levophed and vasopression
   -Continue  flagyl + cefepime
   -IV hydration w/ bicarb given pt acidotic
   -holding nadolol
   -holding furosemide and spirinolactone
   -F/u blood cultures, stool studies, urine cultures
   -colon bx
   - check for strongyloides
   - defer paracentesis as blood cultures will guide treatment
   - ID following
   -surgery following
   .
   2.  Bright red blood per rectum: HCT fell from 37 -> 32 yesterday.
   Stable today at 34.5.  Possible sources of BRBPR could be secondary to
   hemorrhoids, diverticula, ischemic colitis, infectious colitis, AVMs.
   Recently took abx course for cellulitis which may have made her more
   coagulopathic and predisposed her to bleed (INR elevated at 3.1 today
   ).  Lactate elevated concerning of ischemia, however sigmoidoscopy r/o
   ischemia.
   -Maintain active type + screen
   -Follow HCTs q4 hours
   -transfuse if HCT falls below 30
   -IV PPI 40 mg [**Hospital1 7**]
   -trend lactate for improvement.  If increasing suspicion, may require
   angiography.
   4.  Elevated total bilirubin - Secondary to either decompensation of
   liver disease from acute stress of infection or due to obstructive
   picture, [**Doctor Last Name 4871**] disease. Remainder of liver enzymes benign.
   -Trend bilirubin
   -Amylase,lipase
   .
   6.  Coagulopathy:  INR is 2.2 (baseline is 1.8 - 2.0)
   -Recently got cephalosporine course for cellulitis as outpatient; may
   have depleted bowel flora -> low vitamin K -> increased INR.    [**Month (only) 51**]
   also be a sign of DIC
   - Vit K today
   - check FDP
   .
   7.  Metabolic Acidosis - Gap metabolic acidosis likely secondary to
   increased lactate; also has diarrhea which could be a superimposed
   nongap acidosis.
   -For lactic acidosis continue to hydrate with D5 + 150HCO3
   .
   8.  Cryptogenic cirrhosis
   -Holding nadolol, spirinolactone, and furosemide in setting of low BP
   .
   9. Osteoarthritis - hold NSAIDs
   .
   #  Prophylaxis: hold SC heparin, pneumoboots, bowel regimen, IV PPI
   .
   #.  Code Status: Full (confirmed with family)
   .
   #.  Communication - husband, children
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   18 Gauge - [**2126-10-1**] 02:41 AM
   Arterial Line - [**2126-10-1**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-03 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - patient intubated for airway protection
   - blood 10/7: GNR (likely E. Coli per GI)
   - continue pressor support with decreasing urine output
   - GI: re-check abdominal CT when stable as very likely GI source,
   consider paracentesis (IR guided)
   - ID: consider paracentesis (IR guided), continue cefepime + flagyl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-10-2**] 07:59 AM
   Cefipime - [**2126-10-3**] 01:25 AM
   Metronidazole - [**2126-10-3**] 03:53 AM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Vasopressin - 1.2 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-10-2**] 07:59 AM
   Morphine Sulfate - [**2126-10-2**] 10:03 AM
   Midazolam (Versed) - [**2126-10-2**] 03:20 PM
   Fentanyl - [**2126-10-2**] 03:20 PM
   Dextrose 50% - [**2126-10-3**] 02:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-3**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 97 (87 - 128) bpm
   BP: 87/51(64) {78/50(59) - 176/88(124)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.4 kg (admission): 98.4 kg
    CVP: 18 (0 - 27)mmHg
   Total In:
                                                                  8,283 mL
                                                                    491 mL
   PO:
   TF:
   IVF:
                                                                  8,053 mL
                                                                    441 mL
   Blood products:
   Total out:
                                                                    913 mL
                                                                    117 mL
   Urine:
                                                                    913 mL
                                                                    117 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,370 mL
                                                                    374 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 451 (450 - 451) mL
   Vt (Spontaneous): 476 (476 - 476) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 28 cmH2O
   Plateau: 18 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.42/37/81.[**Numeric Identifier 508**]/25/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 205
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   38 K/uL
   9.8 g/dL
   96 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   27 mg/dL
   104 mEq/L
   135 mEq/L
   30.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2126-10-2**]  02:59 AM
                             [**2126-10-2**]  03:20 AM
                             [**2126-10-2**]  09:17 AM
                             [**2126-10-2**]  02:02 PM
                             [**2126-10-2**]  02:27 PM
                             [**2126-10-2**]  06:36 PM
                             [**2126-10-2**]  10:12 PM
                             [**2126-10-2**]  10:25 PM
                             [**2126-10-3**]  03:25 AM
                             [**2126-10-3**]  03:46 AM
   WBC
   10.0
   9.9
   9.3
   10.6
   Hct
   34.5
   32.3
   29.8
   31.0
   30.2
   Plt
   66
   49
   41
   38
   Cr
   0.8
   0.7
   0.7
   TCO2
   21
   27
   26
   24
   25
   Glucose
   126
   203
   63
   96
   Other labs: PT / PTT / INR:31.8/50.3/3.2, ALT / AST:41/94, Alk Phos / T
   Bili:52/3.9, Amylase / Lipase:45/14, Differential-Neuts:72.0 %,
   Band:0.0 %, Lymph:12.0 %, Mono:4.0 %, Eos:2.0 %, Fibrinogen:132 mg/dL,
   Lactic Acid:6.8 mmol/L, Albumin:1.5 g/dL, Ca++:6.9 mg/dL, Mg++:2.0
   mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: 82* 37 7.42
   FDP: 80 - 160 (high)
   fibrinogen: 132 (low)
   lactate: 7.5 -> 6.8
   PTT 50 (was 35 on admission)
   INR 2.2 -> 3.2
   Imaging: CXR from [**10-2**]: Persistent mild to moderate right pleural
   effusion and small left pleural effusion. Slight worsening of basilar
   atelectasis.
   CT Abdomen [**9-30**]: Colonic wall thickening involving the ascending colon
   and rectum with
   surrounding inflammatory fat stranding. Given the location and
   distribution of wall thickening, differential diagnosis includes
   infectious or inflammatory causes, and less likely ischemia. In
   addition, portal colopathy could also appear similarly.
   repeat Abd CT from [**10-3**] pending
   Microbiology: C diff negative, E Coli O157:H7 negative, O+P negative,
   other fecal cxs pending,
   Aerobic Bottle Gram Stain (Final [**2126-10-1**]):    GRAM NEGATIVE ROD(S) -
   sensitive to cipro and ceftriaxone
      Anaerobic Bottle Gram Stain (Final [**2126-10-1**]):    GRAM NEGATIVE
   ROD(S).
   urine culture negative
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices with
   MELD score of 17, who has chronic total bilirubin of 2.0 and INR of 1.8
   to 2.0 presents with bright red blood per rectum, fevers, diarrhea and
   apparent septic shock
   1.  Respiratory Failure:  Given accessory muscle use, dyspnea; probably
   compensating for underlying metabolic acidosis. Currently on FiO2 of
   40%, PEEP of 5.   pHs have improved, no longer acidotic and metabolic
   acidosis resolving.  Lactate levels falling.
   -Tx of underlying infection
   -Consider switching to pressure support ventilation
   2.  Septic shock
 Pt has largely resolved fevers and WBC count stable
   between 9 -10.  Most likely secondary to underlying infection.
   Symptoms, CT scan currently support an infectious colitis: possible
   etiologies include a likely toxin mediated gastroenteritis, salmonella,
   shigella, Ecoli.  Other possible sources for sepsis include her
   bacteremia with GNR, speciation is pending.   Cholangitis less likely
   given liver enzymes do not correspond and pt's exam is generally
   benign.   Also on the differential is SBP, although clinically does not
   have any abdominal tenderness or fluid on exam, and radiologically,
   the  quantity of fluid in her abdomen is small.
   -Continue on pressor support: levophed and vasopression (BPs 85 -95)
   -holding nadolol
   -holding furosemide and spirinolactone
   -Continue  flagyl + cefepime (coverage of anaerobes and gram-
   organisms)
   -Summary of culture data:  C diff negative, E Coli O157:H7 negative,
   O+P negative, other fecal cxs pending, Blood cxs: gram - rods: f/u
   other cxs
   -F/u blood cultures, stool studies, urine cultures
   -f/u colon bx
   - defer paracentesis as blood cultures will guide treatment
   - ID, GI following
   .
   3.  Thrombocytopenia -  At admission had low platelets likely secondary
   to cirrhosis (low thrombopoetin, portal HTN, splenic sequestration).
   Platelets continued to [**2126**]6 -> 38 over past few days.  Given
   diarrhea hx, would consider HUS, however there is no renal failure,
   making this less likely.  Consumption/DIC possible given elevation of
   FDP and decrease of fibrinogen, prolonged PTT and INR.
   -Check blood smear to look for microangiopathic changes
   -Does not appear to be active bleeding; trend platelets [**Hospital1 7**], check PM
   coags.  If further platelet drop or begins to actively bleed, consider
   giving platelets.
   -Given hx of bleed,give FFP and Vitamin K now to reverse INR.
   -Treat underlying cause  (sepsis)
   -Not getting any heparin products
   4.  Bright red blood per rectum: HCT fell from 37 -> 32 yesterday.
   Stable today at 34.5.  Possible sources of BRBPR could be secondary to
   hemorrhoids, diverticula, ischemic colitis, infectious colitis, AVMs.
   Recently took abx course for cellulitis which may have made her more
   coagulopathic and predisposed her to bleed (INR elevated at 3.1 today
   ).  Lactate elevated concerning of ischemia, however sigmoidoscopy r/o
   ischemia.
   -Maintain active type + screen
   -Follow [**Hospital1 7**] HCT
   -transfuse if HCT falls below 21
   -IV PPI 40 mg [**Hospital1 7**]
   -trend lactate for improvement.
   4.  Elevated total bilirubin - Secondary to either decompensation of
   liver disease from acute stress of infection or due to obstructive
   picture. Remainder of liver enzymes benign.
   -Trend bilirubin
   .
   .
   5.  Metabolic Acidosis - Resolving, likely with improved perfusion,
   resolution of lactic acidosis;
   .
   6.  Cryptogenic cirrhosis
   -Holding nadolol, spirinolactone, and furosemide in setting of low BP
   .
   7. Osteoarthritis - hold NSAIDs
   .
   #  Prophylaxis: hold SC heparin, pneumoboots, bowel regimen, IV PPI
   .
   #.  Code Status: Full (confirmed with family)
   .
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   18 Gauge - [**2126-10-1**] 02:41 AM
   Arterial Line - [**2126-10-1**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-03 09:40:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Blood Loss Anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2126-10-2**] 09:50 AM
 INVASIVE VENTILATION - START [**2126-10-2**] 03:00 PM
   -Patient intubated with worsening respiratory distress last pm
   -Cultures negative to date from stool
   -DIC evolving across yesterday with decrease in PLT count
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-10-2**] 07:59 AM
   Cefipime - [**2126-10-3**] 01:25 AM
   Metronidazole - [**2126-10-3**] 03:53 AM
   Infusions:
   Midazolam (Versed) - 2.5 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Vasopressin - 1.2 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2126-10-2**] 10:03 AM
   Midazolam (Versed) - [**2126-10-2**] 03:20 PM
   Fentanyl - [**2126-10-2**] 03:20 PM
   Dextrose 50% - [**2126-10-3**] 02:42 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2126-10-3**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 97 (88 - 128) bpm
   BP: 86/49(61) {78/49(59) - 176/88(124)} mmHg
   RR: 17 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.4 kg (admission): 98.4 kg
   CVP: 294 (0 - 295)mmHg
   Total In:
                                                                  8,283 mL
                                                                    572 mL
   PO:
   TF:
   IVF:
                                                                  8,053 mL
                                                                    522 mL
   Blood products:
   Total out:
                                                                    913 mL
                                                                    177 mL
   Urine:
                                                                    913 mL
                                                                    177 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,370 mL
                                                                    395 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 451) mL
   Vt (Spontaneous): 476 (476 - 476) mL
   RR (Set): 17
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/37/81.[**Numeric Identifier 508**]/25/0
   Ve: 8.1 L/min
   PaO2 / FiO2: 205
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Decreased bowel
   sounds noted
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   38 K/uL
   96 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   27 mg/dL
   104 mEq/L
   135 mEq/L
   30.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2126-10-2**]  02:59 AM
                             [**2126-10-2**]  03:20 AM
                             [**2126-10-2**]  09:17 AM
                             [**2126-10-2**]  02:02 PM
                             [**2126-10-2**]  02:27 PM
                             [**2126-10-2**]  06:36 PM
                             [**2126-10-2**]  10:12 PM
                             [**2126-10-2**]  10:25 PM
                             [**2126-10-3**]  03:25 AM
                             [**2126-10-3**]  03:46 AM
   WBC
   10.0
   9.9
   9.3
   10.6
   Hct
   34.5
   32.3
   29.8
   31.0
   30.2
   Plt
   66
   49
   41
   38
   Cr
   0.8
   0.7
   0.7
   TCO2
   21
   27
   26
   24
   25
   Glucose
   126
   203
   63
   96
   Other labs: PT / PTT / INR:31.8/50.3/3.2, ALT / AST:41/94, Alk Phos / T
   Bili:52/3.9, Amylase / Lipase:45/14, Differential-Neuts:72.0 %,
   Band:0.0 %, Lymph:12.0 %, Mono:4.0 %, Eos:2.0 %, Fibrinogen:132 mg/dL,
   Lactic Acid:6.8 mmol/L, Albumin:1.5 g/dL, Ca++:6.9 mg/dL, Mg++:2.0
   mg/dL, PO4:2.2 mg/dL
   Imaging: CXR-[**2126-10-3**]-
   ETT at 3cm above carina, Left IJ crossing mid-line.
   Right > Left effusions noted, minimal parenchymal infiltrate
   CT--Colitis in ascending colon and rectum
   Microbiology: Cultures--
   O+P-negative
   GNR--Blood (S-Cipro/CTX)--concerning for E. Coli
   C. Diff negative
   Assessment and Plan
   57 yo female with cirrhosis and now presenting with BRBPR and diarrhea
   x 24 hours.  She additionally has now evolved worsening
   thrombocytopenia concerning for DIC and with persistent hypotension.
   1)RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-_Patient with resistance=7,
   compliance of 38 all consistent with hypothesis that persistent
   increase in drive in the setting of sepsis, academia combined with
   small effusions and altered mental status lead to need for intubation
   and ventilatory support.
   -Will continue with A/C support
   -Will continue Rx for sepsis
   -Monitor for pulmonary edema
   _Continue Rx for E. Coli sepsis with likely GI source
   2)GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)--This is concerning for possible contribution from acute infection
   in GI tract but this has not been seen on culture but we do have GNR in
   blood.
   -Continue to trend HCT
   -Continue ABX Rx for E. Coli source
   -Will have to follow exam
   -Will follow biopsy results
   3)SEPSIS WITHOUT ORGAN DYSFUNCTION-_E. Coli bacteremia
   -Cefepime/Flagyl
   -Levophed/Vaso
will increase Vasopressin dosing to 0.04U/min
   -Continue with Fluid bolus as needed today with endpoint being
   alteration in urine output should decline in CVP be seen.
   -Should decline in respiratory system be seen will move to increased
   pressors
   -ID and GI input in place
   4)Acute Renal Failure-
   -We have low urine output but Cr has now shown further elevation making
   HUS less likely
   -Will target urine output today.
   5)Thrombocytopenia
   -Will check for evidence of hemolysis
   -Will minimize offending meds
   -Will look for evidence of pseudothrombocytopenia
   -Correct INR if further increase seen
   -Follow FDP and Fibrinogen
   ICU Care
   Nutrition: To Tube Feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
will get ultrasound of LUE given
   asymmetry
   18 Gauge - [**2126-10-1**] 02:41 AM
   Arterial Line - [**2126-10-1**] 06:12 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition :ICU
   Total time spent:45 minutes

2126-10-04 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -culture data:  E coli growing in blood pan-sensitive; stool studies: C
   diff negative, O+P negative, salmonella negative, shigella negative,
   0157:H7 negative.
   -coags from AM:  PTT 50.3, INR 3.2, FDP 80 - 160, fibrinogen 132
   -ID recs:  stop flagyl, cefepime given pan-sensitive E coli, start
   ceftriaxone 2 gm IV q24
   -colon biopsy negative
   -got 500 cc NS X 2 boluses w/ urine outputs of:
   plateau pressure was 24 suggesting good compliance
   -negative upper extremity doppler
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-10-2**] 07:59 AM
   Metronidazole - [**2126-10-3**] 03:53 AM
   Cefipime - [**2126-10-3**] 12:03 PM
   Ceftriaxone - [**2126-10-3**] 04:16 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-10-3**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-4**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 100 (86 - 102) bpm
   BP: 108/56(74) {85/45(60) - 126/62(271)} mmHg
   RR: 18 (13 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.3 kg (admission): 98.4 kg
   Height: 63 Inch
    CVP: 160 (12 - 294)mmHg
   Total In:
                                                                  3,223 mL
                                                                    438 mL
   PO:
   TF:
                                                                     50 mL
                                                                    181 mL
   IVF:
                                                                  3,123 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                    572 mL
                                                                    230 mL
   Urine:
                                                                    572 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,651 mL
                                                                    208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 312 (312 - 312) mL
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.43/40/101/25/1
   Ve: 5.6 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   10.2 g/dL
   99 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   38 mg/dL
   105 mEq/L
   135 mEq/L
   31.3 %
   10.6 K/uL
        [image002.jpg]
                             [**2126-10-2**]  02:27 PM
                             [**2126-10-2**]  06:36 PM
                             [**2126-10-2**]  10:12 PM
                             [**2126-10-2**]  10:25 PM
                             [**2126-10-3**]  03:25 AM
                             [**2126-10-3**]  03:46 AM
                             [**2126-10-3**]  03:46 PM
                             [**2126-10-3**]  04:15 PM
                             [**2126-10-4**]  04:11 AM
                             [**2126-10-4**]  04:28 AM
   WBC
   9.3
   10.6
   10.6
   Hct
   31.0
   30.2
   30.4
   31.3
   Plt
   41
   38
   42
   Cr
   0.7
   0.7
   0.7
   TCO2
   27
   26
   24
   25
   25
   27
   Glucose
   63
   96
   113
   99
   Other labs: PT / PTT / INR:27.4/48.3/2.7, ALT / AST:41/94, Alk Phos / T
   Bili:52/3.9, Amylase / Lipase:45/14, Differential-Neuts:72.0 %,
   Band:0.0 %, Lymph:12.0 %, Mono:4.0 %, Eos:2.0 %, Fibrinogen:138 mg/dL,
   Lactic Acid:3.5 mmol/L, Albumin:1.5 g/dL, Ca++:7.3 mg/dL, Mg++:2.6
   mg/dL, PO4:1.5 mg/dL
   Microbiology:  Pansensitive ecoli growing in blood; urine cxs negative,
   C diff negative, E Coli O157:H7 negative, O+P negative, other fecal cxs
   pending, Blood cxs: gram - rods: f/u other cxs; colon bx unremarkable.
   CXR:
   IMPRESSION:
   Worsening left retrocardiac opacity probably reflects atelectasis, but
   a
   developing infection is also possible in the appropriate setting.
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices with
   MELD score of 17, who has chronic total bilirubin of 2.0 and INR of 1.8
   to 2.0 presents with bright red blood per rectum, fevers, diarrhea and
   apparent septic shock
   1.  Respiratory Failure:  Given accessory muscle use, dyspnea; probably
   compensating for underlying metabolic acidosis. Currently on FiO2 of
   40%, PEEP of 5.   pHs have improved, no longer acidotic Lactate levels
   falling and metabolic acidosis resolved.  Barriers to extubation:
   continued sedation, resolving sepsis, minimal urine output.
   -Follow UOPs today to fluid boluses and ensure adequate UOP
   -Cut back on sedation to watch how mental status evolves
   -Pull back on norepi and continue vasopressin and watch pressures
   -pending above could consider switch to PSV
   -Continue tx of underlying sepsis
   2.  Septic shock
 Pt has largely resolved fevers and WBC count stable
   between 9 -10.  Source of sepsis likely E. Coli bactermia sensitive to
   ceftriaxone.  All other stool studies negative; cholangitis and SBP
   unlikely.
   -D/c cefepime and flagyl start on ceftriaxone as per ID recs: likely
   will need 2 wk course.
   -On .08 of norepi and 2.4 of vasopressin; pull back on pressors can d/c
   the vasopressin.
   -holding nadolol, furosemide and spirinolactone
   - ID, GI following
   .
   3.  Thrombocytopenia -  At admission had low platelets likely secondary
   to cirrhosis (low thrombopoetin, portal HTN, splenic sequestration).
   Platelets continued to [**2126**]6 -> 38 over past few days but are stable
   at 42 today; fibrinogen, FDP, coags stable and not rising and does not
   appear to be actively bleeding.  Blood smear shows no microangiopathic
   changes which further argues against DIC.  Rather than DIC could be
   secondary to acute worsening of liver disease in setting of sepsis.
   -Can check daily coags, platelets; no need to follow FDP or fibrinogen
   -Continue to treat underlying cause  (sepsis)
   .
   4.  Oliguria:  UOP has improved to 25 cc/hr by midnight yesterday and
   today is already above 30 ccs hour; was responsive to fluids.
   -Would continue fluid boluses today and watch Is and Os during the day
   for adequate response.
   .
   5.  Bright red blood per rectum: HCTs have been stable over last three
   days.
   -Maintain active type + screen
   -Follow daily HCTs
   -transfuse if HCT falls below 21
   -IV PPI 40 mg [**Hospital1 7**]
   6.  Metabolic Acidosis - Gap on non-gap: Resolving with resolution of
   diarrhea and resolving lactate.
   .
   7.  Cryptogenic cirrhosis
   -Holding nadolol, spirinolactone, and furosemide in setting of low BP
   .
   8. Osteoarthritis - hold NSAIDs
   .
   9. FEN:  Started on TF yesterday.  Repleting electrolytes as
   necessary.
   10.  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   .
   #.  Code Status: Full (confirmed with family)
   .
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-3**] 10:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   18 Gauge - [**2126-10-1**] 02:41 AM
   Arterial Line - [**2126-10-1**] 06:12 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-04 09:46:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with stable thrombocytopenia
   -Patient with ABX changed to Ceftiraxone per ID suggestion
   -Patient with ultrasound negative for DVT
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-10-2**] 07:59 AM
   Metronidazole - [**2126-10-3**] 03:53 AM
   Cefipime - [**2126-10-3**] 12:03 PM
   Ceftriaxone - [**2126-10-3**] 04:16 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-10-3**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2126-10-4**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 100 (86 - 102) bpm
   BP: 108/56(74) {85/45(60) - 126/62(271)} mmHg
   RR: 18 (13 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.3 kg (admission): 98.4 kg
   Height: 63 Inch
   CVP: 160 (12 - 292)mmHg
   Total In:
                                                                  3,223 mL
                                                                    566 mL
   PO:
   TF:
                                                                     50 mL
                                                                    242 mL
   IVF:
                                                                  3,123 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                    572 mL
                                                                    230 mL
   Urine:
                                                                    572 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,651 mL
                                                                    336 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 312 (312 - 312) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 29 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.43/40/101/25/1
   Ve: 7.7 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   42 K/uL
   99 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   38 mg/dL
   105 mEq/L
   135 mEq/L
   31.3 %
   10.6 K/uL
        [image002.jpg]
                             [**2126-10-2**]  02:27 PM
                             [**2126-10-2**]  06:36 PM
                             [**2126-10-2**]  10:12 PM
                             [**2126-10-2**]  10:25 PM
                             [**2126-10-3**]  03:25 AM
                             [**2126-10-3**]  03:46 AM
                             [**2126-10-3**]  03:46 PM
                             [**2126-10-3**]  04:15 PM
                             [**2126-10-4**]  04:11 AM
                             [**2126-10-4**]  04:28 AM
   WBC
   9.3
   10.6
   10.6
   Hct
   31.0
   30.2
   30.4
   31.3
   Plt
   41
   38
   42
   Cr
   0.7
   0.7
   0.7
   TCO2
   27
   26
   24
   25
   25
   27
   Glucose
   63
   96
   113
   99
   Other labs: PT / PTT / INR:27.4/48.3/2.7, ALT / AST:41/94, Alk Phos / T
   Bili:52/3.9, Amylase / Lipase:45/14, Differential-Neuts:72.0 %,
   Band:0.0 %, Lymph:12.0 %, Mono:4.0 %, Eos:2.0 %, Fibrinogen:138 mg/dL,
   Lactic Acid:3.5 mmol/L, Albumin:1.5 g/dL, Ca++:7.3 mg/dL, Mg++:2.6
   mg/dL, PO4:1.5 mg/dL
   Imaging: CXR-Left sided consoliation unchanged.  Right sided effusion,
   ETT and CVL in good position.
   Assessment and Plan
   58 yo female admit with Gi bleed in the setting of cirrhosis and found
   to have E. Coli sepsis in the setting of diarrhea at presenation.  She
   has had reasonable response to intervention for E. Coli sepsis and has
   active issue of persistent respiratory failure with slow to improve
   mental status in the setting of sedation.
   1)Sepsis
   E. Coli found in blood
   Will look to wean pressors today
specifically Levophed
   -CVP is likely 14, fevers resolved, urine function stable
   -Will keep I/O even today
   -Urine output reasonable with IVF bolus needed
   2)Respiratory Failure-Minute ventilation requirement reasonable,
   Pplat=20, no evidence of substantial pulmonary edema
CXR with left
   sided consolidation.
   -Will move to PSV as mental status improves and look to wean to
   extubation as possible across the day
   -Barriers to extubation include
mental status, volume overload and
   continued sepsis as we will need hemodynamic stability to look to move
   to extubation
   3)GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)-
   -PPI iV
   -Adquate IV access in place
   4)Altered Mental Status-Is consistent with diffuse encephalopathy and
   will look to decrease sedation and follow exam
   -Will continue to wean sedation as possible with Versed and Fentanyl
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-3**] 10:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   18 Gauge - [**2126-10-1**] 02:41 AM
   Arterial Line - [**2126-10-1**] 06:12 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2126-10-05 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2126-10-5**] 06:00 AM
   - stopped versed
   - UOP picked up to 40cc/hr without fluid boluses.
   - tapered levophed
   - ID signed off: rec surveillance bcx. monotherapy with ceftriaxone 14
   day course from last negative blood culture.
   - stool cultures & O&P negative, more recent blood cx pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-10-2**] 07:59 AM
   Metronidazole - [**2126-10-3**] 03:53 AM
   Cefipime - [**2126-10-3**] 12:03 PM
   Ceftriaxone - [**2126-10-4**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-10-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-5**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 110 (101 - 119) bpm
   BP: 126/86(80) {103/52(65) - 154/86(89)} mmHg
   RR: 14 (14 - 19) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 118.3 kg (admission): 98.4 kg
   Height: 63 Inch
    CVP: 12 (9 - 155)mmHg
   Total In:
                                                                  1,960 mL
                                                                    443 mL
   PO:
                                                                     60 mL
   TF:
                                                                    679 mL
                                                                    214 mL
   IVF:
                                                                    660 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                  1,100 mL
   Urine:
                                                                    905 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
                                                                    160 mL
   Balance:
                                                                    855 mL
                                                                   -657 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 410 (410 - 410) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.46/40/86.[**Numeric Identifier 143**]/28/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Cardiovascular: gen: intubated, minimally responsive to pain, not
   responive to command
   CV: RRR, no murmur
   Lungs: CTAB
   Abd: soft, ND, NT ABS
   Ext: 2+ edema bilaterally
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   31 K/uL
   10.0 g/dL
   109 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.8 mEq/L
   43 mg/dL
   106 mEq/L
   137 mEq/L
   30.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2126-10-2**]  10:25 PM
                             [**2126-10-3**]  03:25 AM
                             [**2126-10-3**]  03:46 AM
                             [**2126-10-3**]  03:46 PM
                             [**2126-10-3**]  04:15 PM
                             [**2126-10-4**]  04:11 AM
                             [**2126-10-4**]  04:28 AM
                             [**2126-10-4**]  04:48 PM
                             [**2126-10-4**]  05:06 PM
                            [**2126-10-5**]  02:30 AM
   WBC
   10.6
   10.6
   9.9
   10.0
   Hct
   30.2
   30.4
   31.3
   30.2
   30.6
   Plt
   38
   42
   34
   31
   Cr
   0.7
   0.7
   0.7
   0.6
   0.7
   TCO2
   24
   25
   25
   27
   29
   Glucose
   63
   96
   113
   99
   118
   109
   Other labs: PT / PTT / INR:30.1/50.5/3.0, Lactic Acid:2.6 mmol/L,
   Albumin:1.5 g/dL, Ca++:7.3 mg/dL, Mg++:2.7 mg/dL, PO4:1.8 mg/dL
   Imaging: no imaging
   Microbiology: Ecoli - sensitive to ceftriaxone
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices with
   MELD score of 17, who has chronic total bilirubin of 2.0 and INR of 1.8
   to 2.0 presents with bright red blood per rectum, fevers, diarrhea and
   apparent septic shock
   1.  Respiratory Failure:  Intially intubated due to increased WOB in
   setting of pulmonary edema.  Currently on FiO2 of 40%, PEEP of 5.
   Lactate levels falling and metabolic acidosis resolved, improving her
   respiratory status also.   Barriers to extubation:  reduced mental
   status, resolving sepsis, pulmonary edema
   -Follow UOPs today to fluid boluses and ensure adequate UOP
   -Cut back on sedation to watch how mental status evolves
   -Pull back on norepi and continue vasopressin and watch pressures
   -switch to pressure support
   - diuresis as BP tolerates
   -Continue tx of underlying sepsis
   2.  Septic shock
 Pt has largely resolved fevers and WBC count stable
   between 9 -10.  Source of sepsis likely E. Coli bactermia sensitive to
   ceftriaxone.  All other stool studies negative; cholangitis and SBP
   unlikely.
   - Started on ceftriaxone yesterday as per ID recs: likely will need 2
   wk course from date of first negative blood culture.  (ID signed off)
   - Pressors d/c'd
   -holding nadolol, furosemide and spirinolactone
   - ID, GI following
   3.  Thrombocytopenia/Elevated Coags -  At admission had low platelets
   likely secondary to cirrhosis (low thrombopoetin, portal HTN, splenic
   sequestration).  Platelets continued to [**2126**]6 -> 38 over past few
   days but are stable in 30s.  Fibrinogen, FDP, coags had been stable and
   not rising and does not appear to be actively bleeding.  Blood smear
   shows no microangiopathic changes which further argues against DIC.
   Rather than DIC could be secondary to acute worsening of liver disease
   in setting of sepsis.
   -Can check daily coags, platelets; no need to follow FDP or fibrinogen
   -Continue to treat underlying cause  (sepsis)
   4.  Oliguria:  UOP has improved to 50cc/hr.  UOP is responsive to
   fluids, although she is not requiring fluid boluses.
   -  Watch I/O's
   - Diuresis as BP allows.
   5.  Bright red blood per rectum: HCTs have been stable over last three
   days.
   -Maintain active type + screen
   -Follow daily HCTs
   -transfuse if HCT falls below 21
   -IV PPI 40 mg [**Hospital1 7**]
   6.  Metabolic Acidosis - Gap on non-gap: Resolving with resolution of
   diarrhea and resolving lactate.
   7.  Cryptogenic cirrhosis
   -Holding nadolol, spirinolactone, and furosemide in setting of low BP
   8. Osteoarthritis - hold NSAIDs
   9. FEN:  Started on TF yesterday.  Repleting electrolytes as
   necessary.
   10.  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   #.  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-4**] 04:40 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-05 11:02:00 Physician Attending Progress Note
Chief Complaint: Septic shock, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Off of pressors
   24 Hour Events:
 ARTERIAL LINE - STOP [**2126-10-5**] 06:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2126-10-3**] 03:53 AM
   Cefipime - [**2126-10-3**] 12:03 PM
   Ceftriaxone - [**2126-10-5**] 08:11 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-10-5**] 08:11 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-5**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 116 (103 - 119) bpm
   BP: 130/69(83) {117/52(66) - 154/86(89)} mmHg
   RR: 17 (14 - 19) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 118.3 kg (admission): 98.4 kg
   Height: 63 Inch
   CVP: 9 (9 - 155)mmHg
   Total In:
                                                                  1,960 mL
                                                                    964 mL
   PO:
                                                                     60 mL
   TF:
                                                                    680 mL
                                                                    326 mL
   IVF:
                                                                    661 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                  1,770 mL
   Urine:
                                                                    905 mL
                                                                    510 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
                                                                    200 mL
                                                                    160 mL
   Balance:
                                                                    855 mL
                                                                   -806 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 410 (410 - 410) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.46/40/86.[**Numeric Identifier 143**]/28/4
   Ve: 8.8 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   31 K/uL
   109 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.8 mEq/L
   43 mg/dL
   106 mEq/L
   137 mEq/L
   30.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2126-10-2**]  10:25 PM
                             [**2126-10-3**]  03:25 AM
                             [**2126-10-3**]  03:46 AM
                             [**2126-10-3**]  03:46 PM
                             [**2126-10-3**]  04:15 PM
                             [**2126-10-4**]  04:11 AM
                             [**2126-10-4**]  04:28 AM
                             [**2126-10-4**]  04:48 PM
                             [**2126-10-4**]  05:06 PM
                            [**2126-10-5**]  02:30 AM
   WBC
   10.6
   10.6
   9.9
   10.0
   Hct
   30.2
   30.4
   31.3
   30.2
   30.6
   Plt
   38
   42
   34
   31
   Cr
   0.7
   0.7
   0.7
   0.6
   0.7
   TCO2
   24
   25
   25
   27
   29
   Glucose
   63
   96
   113
   99
   118
   109
   Other labs: PT / PTT / INR:30.1/50.5/3.0, ALT / AST:35/84, Alk Phos / T
   Bili:82/3.8, Amylase / Lipase:45/14, Differential-Neuts:72.0 %,
   Band:0.0 %, Lymph:12.0 %, Mono:4.0 %, Eos:2.0 %, Fibrinogen:138 mg/dL,
   Lactic Acid:2.6 mmol/L, Albumin:1.5 g/dL, LDH:293 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.7 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   58 yo female admit with Gi bleed in the setting of cirrhosis, E.coli
   sepsi, respiratory failure in setting of large volume resusitation
   1)Sepsis - Off pressors, WBC stable.  Likely bowel source of E.coli -
   cont CTX.
   2)Respiratory Failure- Oxygenating well.  Menatl status continues to be
   poor - may be slowly clearing sedation + hepatic encephalopathy.
   Change over to PSV today.  Will try Lasix today to initiate diuresis.
   3)GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)-
   -PPI iV.  Hct stable
   4) Thrombocytopenia: Stable, cont to follow
   Remnainder of issues per ICU team
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-5**] 09:18 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 33 minutes
   Patient is critically ill

2126-10-06 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**10-4**]
   - stopped versed
   - UOP picked up to 40cc/hr without fluid boluses.
   - tapered levophed
   - ID signed off: rec surveillance bcx. monotherapy with ceftriaxone 14
   day course from last negative blood culture.
   - stool cultures & O&P negative, more recent blood cx pending
   [**10-5**]
   -after routine turning she desaturated from 97-98 to 90, did not
   respond to suctioning.
   -ordered x-ray to evaluate - did not have routine x-ray this morning.
   -no new findings on XR, ET tube remains low, approx. 2 cm above carina
   -simultaneous ABG/VBG drawn for correlation at 1800.
   -Lasix 80 IV given at 1100 with good UOP, then again at 1800 with
   moderate UOP.
   -PM lytes look good, no bump in creatinine.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2126-10-3**] 12:03 PM
   Ceftriaxone - [**2126-10-5**] 08:11 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-10-5**] 08:11 AM
   Metoprolol - [**2126-10-5**] 06:48 PM
   Furosemide (Lasix) - [**2126-10-6**] 02:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-6**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.5
C (97.7
   HR: 108 (99 - 122) bpm
   BP: 147/81(97) {116/65(79) - 174/92(104)} mmHg
   RR: 17 (16 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 118.3 kg (admission): 98.4 kg
   Height: 63 Inch
    CVP: 17 (9 - 17)mmHg
   Total In:
                                                                  2,377 mL
                                                                    578 mL
   PO:
                                                                     60 mL
   TF:
                                                                    867 mL
                                                                    309 mL
   IVF:
                                                                    300 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  3,125 mL
                                                                  1,305 mL
   Urine:
                                                                  1,775 mL
                                                                    505 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
                                                                    250 mL
   Balance:
                                                                   -748 mL
                                                                   -727 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   PS : 14 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   SpO2: 98%
   ABG: 7.52/36/78.[**Numeric Identifier 181**]/29/5
   Ve: 7.9 L/min
   PaO2 / FiO2: 197
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   34 K/uL
   11.5 g/dL
   112 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.3 mEq/L
   53 mg/dL
   107 mEq/L
   140 mEq/L
   34.5 %
   15.1 K/uL
        [image002.jpg]
                             [**2126-10-3**]  03:46 PM
                             [**2126-10-3**]  04:15 PM
                             [**2126-10-4**]  04:11 AM
                             [**2126-10-4**]  04:28 AM
                             [**2126-10-4**]  04:48 PM
                             [**2126-10-4**]  05:06 PM
                            [**2126-10-5**]  02:30 AM
                            [**2126-10-5**]  02:13 PM
                            [**2126-10-5**]  05:49 PM
                            [**2126-10-6**]  03:12 AM
   WBC
   10.6
   9.9
   10.0
   15.1
   Hct
   30.4
   31.3
   30.2
   30.6
   34.5
   Plt
   42
   34
   31
   34
   Cr
   0.7
   0.7
   0.6
   0.7
   0.7
   0.7
   TCO2
   25
   27
   29
   30
   Glucose
   113
   99
   118
   109
   127
   112
   Other labs: PT / PTT / INR:31.9/52.2/3.2, ALT / AST:36/95, Alk Phos / T
   Bili:142/6.3, Amylase / Lipase:45/14, Differential-Neuts:72.0 %,
   Band:0.0 %, Lymph:12.0 %, Mono:4.0 %, Eos:2.0 %, Fibrinogen:138 mg/dL,
   Lactic Acid:2.5 mmol/L, Albumin:1.5 g/dL, LDH:414 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.8 mg/dL, PO4:2.8 mg/dL
   Imaging: [**10-4**]: Vascular congestion is unchanged. Small bilateral
   pleural effusions, larger on the right side are unchanged. Bibasilar
   opacities greater on the left side are
   likely atelectases, infection in the left base cannot be totally
   excluded.
   Microbiology: Bcxs: E coli from [**9-30**]
   all other cxs pending or negative
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices with
   MELD score of 17, who has chronic total bilirubin of 2.0 and INR of 1.8
   to 2.0 presents with bright red blood per rectum, fevers, diarrhea and
   apparent septic shock
   1.  Respiratory Failure:  Intially intubated due to increased WOB in
   setting of pulmonary edema.  Currently on FiO2 of 40%, PEEP of 5.
   Lactate levels falling and metabolic acidosis resolved, improving her
   respiratory status also.   Barriers to extubation:  reduced mental
   status, resolving sepsis, pulmonary edema
   -Diurese as BP tolerates to improve pulmonary edema
   -Of sedation, avoid medications that may affect mental status
   -switch to pressure support
   - diuresis as BP tolerates
   -Continue tx of underlying sepsis
   2.  Septic shock
 Pt has largely resolved fevers; although WBC count
   has increased to 15 O/N.  Source of sepsis likely E. Coli bactermia
   sensitive to ceftriaxone.  All other stool studies negative;
   cholangitis and SBP unlikely.
   -F/u Bcxs, repeat Ucx
   - Off pressors
   - On ceftriaxone yesterday as per ID recs: likely will need 2 wk course
   from date of first negative blood culture.  (ID signed off)
   -holding nadolol, spirinolactone.  Restart as pt improves and as BP
   tolerates
   - GI following
   3.  Thrombocytopenia/Elevated Coags -  At admission had low platelets
   likely secondary to cirrhosis (low thrombopoetin, portal HTN, splenic
   sequestration).  Platelets are stable in 30s.  Fibrinogen, FDP, coags
   had been stable and not rising and does not appear to be actively
   bleeding.  Blood smear shows no microangiopathic changes which further
   argues against DIC.  Rather than DIC could be secondary to acute
   worsening of liver disease in setting of sepsis.
   -Can check daily coags, platelets; no need to follow FDP or fibrinogen
   -Continue to treat underlying cause  (sepsis)
   4.  Oliguria:  UOP has improved to 75cc/hr.  UOP is responsive to
   fluids.
   -  Watch I/O's
   - Diuresis as BP allows.
   - PM lytes
   5.  Bright red blood per rectum: HCTs have been stable over last three
   days.
   -Maintain active type + screen
   -Follow daily HCTs
   -transfuse if HCT falls below 21
   -IV PPI 40 mg [**Hospital1 7**]
   6.  Metabolic Acidosis
 Lactic acid levels have improved with
   treatment of bacteremia.
   7.  Cryptogenic cirrhosis
   -Holding nadolol, spirinolactone in setting of low BP
   8. FEN:  Started on TF two days ago.  Repleting electrolytes as
   necessary.
   9.  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   #.  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-5**] 09:49 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-06 12:24:00 Physician Attending Progress Note
Chief Complaint: Spetic shock, Respiratory Failure, GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2126-10-5**] 02:25 PM
 EKG - At [**2126-10-5**] 05:59 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-6**] 08:50 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2126-10-5**] 06:48 PM
   Furosemide (Lasix) - [**2126-10-6**] 02:50 AM
   Pantoprazole (Protonix) - [**2126-10-6**] 08:50 AM
   Heparin Sodium (Prophylaxis) - [**2126-10-6**] 08:50 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-10-6**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 112 (99 - 120) bpm
   BP: 188/78(101) {116/65(79) - 188/92(106)} mmHg
   RR: 20 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.8 kg (admission): 98.4 kg
   Height: 63 Inch
   CVP: 10 (10 - 17)mmHg
   Total In:
                                                                  2,378 mL
                                                                  1,131 mL
   PO:
                                                                     60 mL
   TF:
                                                                    867 mL
                                                                    490 mL
   IVF:
                                                                    300 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  3,125 mL
                                                                  1,532 mL
   Urine:
                                                                  1,775 mL
                                                                    642 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
                                                                    250 mL
                                                                     90 mL
   Balance:
                                                                   -747 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 419 (419 - 419) mL
   PS : 14 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 60
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.52/36/78.[**Numeric Identifier 181**]/29/5
   Ve: 10.2 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardia, hyperdynamic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   34 K/uL
   112 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.3 mEq/L
   53 mg/dL
   107 mEq/L
   140 mEq/L
   34.5 %
   15.1 K/uL
        [image002.jpg]
                             [**2126-10-3**]  03:46 PM
                             [**2126-10-3**]  04:15 PM
                             [**2126-10-4**]  04:11 AM
                             [**2126-10-4**]  04:28 AM
                             [**2126-10-4**]  04:48 PM
                             [**2126-10-4**]  05:06 PM
                            [**2126-10-5**]  02:30 AM
                            [**2126-10-5**]  02:13 PM
                            [**2126-10-5**]  05:49 PM
                            [**2126-10-6**]  03:12 AM
   WBC
   10.6
   9.9
   10.0
   15.1
   Hct
   30.4
   31.3
   30.2
   30.6
   34.5
   Plt
   42
   34
   31
   34
   Cr
   0.7
   0.7
   0.6
   0.7
   0.7
   0.7
   TCO2
   25
   27
   29
   30
   Glucose
   113
   99
   118
   109
   127
   112
   Other labs: PT / PTT / INR:31.9/52.2/3.2, ALT / AST:36/95, Alk Phos / T
   Bili:142/6.3, Amylase / Lipase:45/14, Differential-Neuts:72.0 %,
   Band:0.0 %, Lymph:12.0 %, Mono:4.0 %, Eos:2.0 %, Fibrinogen:138 mg/dL,
   Lactic Acid:2.5 mmol/L, Albumin:1.5 g/dL, LDH:414 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: RLL infiltrate
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   58 yo female admit with GI bleed in the setting of cirrhosis, E.coli
   sepsis, respiratory failure in setting of large volume resusitation
   1) Sepsis - Actually now hypertensive.  Cont CTX for E. coli.
   2) Respiratory Failure- Mental status is main barrier to extubation ->
   she is starting to move spontaneously and respond to noxious stimuli.
   Cont on PSV
   3)GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)-
    -PPI iV.  Hct stable
   4) Thrombocytopenia: Stable, cont to follow
   Remnainder of issues per ICU team
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-6**] 10:15 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2126-10-07 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -mental status improving, now moving extremities spontaneously,
   responding easily to pain; has now been off sedation > 3 days
   -urine cultures re-sent given elevation in WBC count; urine cultures
   are pending but UA from today shows 14 WBCs
   -got IV lasix 80 mg X 2: was -1 L by evening; UOP dramatically
   improved; this AM w/o lasix, drop off in output
   -liver recs: added rifaximin 400 mg TID
   -stopped pressors as pressures were in the 160s; gave 5 mg IV labetalol
   X 2; holding on home doses of nadolol/spirinolactone/lasix until
   tomorrow AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-6**] 08:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-10-6**] 08:50 AM
   Heparin Sodium (Prophylaxis) - [**2126-10-6**] 08:50 AM
   Furosemide (Lasix) - [**2126-10-6**] 05:41 PM
   Labetalol - [**2126-10-6**] 05:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-7**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 106 (99 - 116) bpm
   BP: 149/79(96) {63/21(30) - 188/95(107)} mmHg
   RR: 29 (19 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.8 kg (admission): 98.4 kg
   Height: 63 Inch
    CVP: 15 (9 - 15)mmHg
   Total In:
                                                                  1,924 mL
                                                                    759 mL
   PO:
   TF:
                                                                    964 mL
                                                                    310 mL
   IVF:
                                                                    300 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  2,933 mL
                                                                    233 mL
   Urine:
                                                                  1,243 mL
                                                                    233 mL
   NG:
   Stool:
   Drains:
                                                                     90 mL
   Balance:
                                                                 -1,009 mL
                                                                    526 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 370 (360 - 431) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 60
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 23 cmH2O
   SpO2: 95%
   ABG: 7.54/35/72/28/6
   Ve: 10.1 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   50 K/uL
   12.1 g/dL
   97 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.5 mEq/L
   68 mg/dL
   107 mEq/L
   141 mEq/L
   35.8 %
   19.7 K/uL
        [image002.jpg]
                             [**2126-10-4**]  04:48 PM
                             [**2126-10-4**]  05:06 PM
                            [**2126-10-5**]  02:30 AM
                            [**2126-10-5**]  02:13 PM
                            [**2126-10-5**]  05:49 PM
                            [**2126-10-6**]  03:12 AM
                            [**2126-10-6**]  04:11 PM
                            [**2126-10-6**]  04:23 PM
                            [**2126-10-7**]  12:58 AM
                            [**2126-10-7**]  01:52 AM
   WBC
   9.9
   10.0
   15.1
   19.7
   Hct
   30.2
   30.6
   34.5
   35.8
   Plt
   34
   31
   34
   50
   Cr
   0.6
   0.7
   0.7
   0.7
   0.9
   1.1
   TCO2
   29
   30
   32
   31
   Glucose
   118
   109
   127
   112
   122
   97
   Other labs: PT / PTT / INR:36.5/57.4/3.8, CK / CKMB / Troponin-T:59//,
   ALT / AST:36/95, Alk Phos / T Bili:142/6.3, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.5 mmol/L, Albumin:1.5
   g/dL, LDH:414 IU/L, Ca++:7.7 mg/dL, Mg++:2.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices with
   MELD score of 17, who has chronic total bilirubin of 2.0 and INR of 1.8
   to 2.0 presents with bright red blood per rectum, fevers, diarrhea and
   apparent septic shock
   1.  Respiratory Failure:  Intially intubated due to increased WOB in
   setting of pulmonary edema.  Currently on pressure support with FiO2 of
   40%, PEEP of 10.  Lactate levels falling and metabolic acidosis
   resolved, improving her respiratory status also.   Barriers to
   extubation continue to be:  reduced mental status, resolving sepsis,
   pulmonary edema
   -Continue to hold sedation, now has been 4 days.  Mental status
   continues to improve
   -Tolerating pressure support with gases of 7.54, 35, 72;
   -Recheck gas this AM:  if PaO2 has improved > 80 can consider weaning
   down further on Peep to 5
   -Continue tx of underlying sepsis
   -Restart home nadolol; would hold on spirinolactone and lasix given
   worsening creatinine and BUN over past several days; likely prerenal
   etiology.
   .
   2.  Sepsis
 Pt has increasing WBC count to 19.7.   Has been
   afebrile.   Source of prior sepsis likely E. Coli bacteremia but
   unclear why leukocytosis is worsening.  Repeat UA from yesterday shows
   pyuria, urine culture is pending.  All other cultures including stool
   studies negative; cholangitis and SBP unlikely.
   -F/u Bcxs, repeat Ucx; could have new ventilator acquired PNA; obtain
   CXR today, send sputum cxs if secretions
   -Off pressors
   -On ceftriaxone yesterday as per ID recs: likely will need 2 wk course
   from date of first negative blood culture.  (ID signed off)
   3.  Hypertension - BPs were mostly in the 150s - 170s; got labetalol IV
   5 mg X 2 yesterday.
   -Restarting home nadolol, holding spirinolactone and lasix
   -Can give labetalol IV to keep SBP < 160
   4.  Thrombocytopenia/Elevated Coags -  At admission had low platelets
   likely secondary to cirrhosis (low thrombopoetin, portal HTN, splenic
   sequestration).  Platelets are stable in 30s to 50s.  Fibrinogen, FDP,
   coags had been stable and not rising and does not appear to be actively
   bleeding.  Blood smear shows no microangiopathic changes which further
   argues against DIC.  Rather than DIC could be secondary to acute
   worsening of liver disease in setting of sepsis.
   -Can check daily coags, platelets; no need to follow FDP or fibrinogen
   -Continue to treat underlying cause  (sepsis)
   5.  Oliguria:  UOP responded yesterday to lasix boluses but drops off
   when lasix stopped.  Creatinine and BUN have also been slowly trending
   up:  Cr went from 0.7 to 1.1, likely secondary to prerenal etiology.
   - Would obtain urine electrolytes
   - Hold off on diuresis (was -1 L yesterday and could be becoming
   intravascularly dry)
   - Watch Is and Os today; if continues to be oliguric . . .
   6.  Bright red blood per rectum: HCTs have been stable over last three
   days.
   -Maintain active type + screen
   -Follow daily HCTs
   -transfuse if HCT falls below 21
   -IV PPI 40 mg [**Hospital1 7**]
   7.  Metabolic Acidosis
 Lactic acid levels have improved with
   treatment of bacteremia.
   8.  Cryptogenic cirrhosis
   -Restarting nadolol; continue spirinolactone and lasix.
   9. FEN:  Started on TF three days ago.  Repleting electrolytes as
   necessary.
   10.  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   #.  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-6**] 10:42 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-07 10:34:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still only responding to painful stimuli
   Urine output 20cc per hour
   Had desatuation this AM - now back on A/C
   24 Hour Events:
 URINE CULTURE - At [**2126-10-6**] 01:14 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-7**] 09:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-10-6**] 05:41 PM
   Labetalol - [**2126-10-6**] 05:41 PM
   Pantoprazole (Protonix) - [**2126-10-7**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2126-10-7**] 09:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-10-7**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 102 (99 - 115) bpm
   BP: 128/63(77) {63/21(30) - 188/95(107)} mmHg
   RR: 21 (20 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.8 kg (admission): 98.4 kg
   Height: 63 Inch
   CVP: 9 (9 - 15)mmHg
   Total In:
                                                                  1,925 mL
                                                                  1,158 mL
   PO:
   TF:
                                                                    964 mL
                                                                    414 mL
   IVF:
                                                                    300 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  2,933 mL
                                                                    327 mL
   Urine:
                                                                  1,243 mL
                                                                    327 mL
   NG:
   Stool:
   Drains:
                                                                     90 mL
   Balance:
                                                                 -1,008 mL
                                                                    831 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 406 (360 - 431) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 27
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.54/35/72/28/6
   Ve: 10.4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.1 g/dL
   50 K/uL
   174
   1.1 mg/dL
   28 mEq/L
   4.5 mEq/L
   68 mg/dL
   107 mEq/L
   141 mEq/L
   35.8 %
   19.7 K/uL
        [image002.jpg]
                             [**2126-10-4**]  05:06 PM
                            [**2126-10-5**]  02:30 AM
                            [**2126-10-5**]  02:13 PM
                            [**2126-10-5**]  05:49 PM
                            [**2126-10-6**]  03:12 AM
                            [**2126-10-6**]  04:11 PM
                            [**2126-10-6**]  04:23 PM
                            [**2126-10-7**]  12:58 AM
                            [**2126-10-7**]  01:52 AM
                            [**2126-10-7**]  10:00 AM
   WBC
   10.0
   15.1
   19.7
   Hct
   30.6
   34.5
   35.8
   Plt
   31
   34
   50
   Cr
   0.7
   0.7
   0.7
   0.9
   1.1
   TCO2
   29
   30
   32
   31
   Glucose
   109
   127
   112
   122
   97
   174
   Other labs: PT / PTT / INR:36.5/57.4/3.8, CK / CKMB / Troponin-T:59//,
   ALT / AST:36/95, Alk Phos / T Bili:142/6.3, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.5 mmol/L, Albumin:1.5
   g/dL, LDH:414 IU/L, Ca++:7.7 mg/dL, Mg++:2.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   58 yo female admit with GI bleed in the setting of cirrhosis, E.coli
   sepsis, respiratory failure in setting of large volume resusitation
   1) Sepsis - Initial E. coli sepsis resolved. On CTX.   But now with
   increased leukocytosis, fever, transient increase in O2 requirement.
   Resend sputum, follow-up other culture.  Recheck CXR this AM.  Recheck
   C. diff.  Will get abd CT as well.
   2) Respiratory Failure- Will check CXR and try to switch back to PSV.
   3)GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)-
    -PPI iV.  Hct stable
   4) Renal failure:  No further diuresis.   Cr now up - will  give back a
   500cc of saline.
   5) Diminished mental status: Check head CT
   Remnainder of issues per ICU team
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-6**] 10:42 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2126-10-08 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - went for CT abdomen
   - CT head (wet read): no definite findings to account for sx, coarsely
   calcified nodule in R putamen, nonspecific, ?old ischemia MRI rec for
   better clarificiation
   - BP in 170s systolic, HR in 100s, given IV labetolol 5mg X1.
   - UOP dropped to 25 given 40 IV lasix + followed by 500cc NS.  UOP
   picked up.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-7**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-10-7**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2126-10-7**] 08:06 PM
   Labetalol - [**2126-10-8**] 12:19 AM
   Furosemide (Lasix) - [**2126-10-8**] 12:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-8**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36
C (96.8
   HR: 101 (92 - 107) bpm
   BP: 156/68(88) {122/53(77) - 175/102(113)} mmHg
   RR: 24 (17 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 116.8 kg (admission): 98.4 kg
   Height: 63 Inch
    CVP: 19 (9 - 20)mmHg
   Total In:
                                                                  1,811 mL
                                                                  1,055 mL
   PO:
   TF:
                                                                    701 mL
                                                                    295 mL
   IVF:
                                                                    170 mL
                                                                    500 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,691 mL
                                                                    295 mL
   Urine:
                                                                    681 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
                                                                    110 mL
   Balance:
                                                                    120 mL
                                                                    760 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 406 (406 - 406) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 94%
   ABG: ///29/
   Ve: 8.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   77 K/uL
   10.8 g/dL
   122 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.6 mEq/L
   87 mg/dL
   106 mEq/L
   141 mEq/L
   32.6 %
   21.5 K/uL
        [image002.jpg]
                            [**2126-10-5**]  02:13 PM
                            [**2126-10-5**]  05:49 PM
                            [**2126-10-6**]  03:12 AM
                            [**2126-10-6**]  04:11 PM
                            [**2126-10-6**]  04:23 PM
                            [**2126-10-7**]  12:58 AM
                            [**2126-10-7**]  01:52 AM
                            [**2126-10-7**]  10:00 AM
                            [**2126-10-8**]  04:02 AM
                            [**2126-10-8**]  06:10 AM
   WBC
   15.1
   19.7
   21.5
   Hct
   34.5
   35.8
   31.7
   32.6
   Plt
   34
   50
   77
   Cr
   0.7
   0.7
   0.9
   1.1
   1.2
   TCO2
   30
   32
   31
   Glucose
   127
   112
   122
   97
   174
   122
   Other labs: PT / PTT / INR:40.4/60.5/4.2, CK / CKMB / Troponin-T:59//,
   ALT / AST:36/95, Alk Phos / T Bili:142/6.3, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.6 mmol/L, Albumin:1.5
   g/dL, LDH:414 IU/L, Ca++:7.8 mg/dL, Mg++:3.1 mg/dL, PO4:3.6 mg/dL
   Imaging: CT abd/pelvis
   CXR
   Microbiology: [**10-7**] SPUTUM CULTURE
   pending
   [**10-7**] STOOL CULTURE
   pending
   [**10-6**] URINE CULTURE
   no growth
   [**10-6**] BLOOD CULTURES
   pending x2
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices with
   MELD score of 17, who has chronic total bilirubin of 2.0 and INR of 1.8
   to 2.0 presents with bright red blood per rectum, fevers, diarrhea and
   apparent septic shock
   #  Sepsis
 Pt has increasing WBC count to 21.5.   Has been afebrile
   >24hr.   Source of prior sepsis likely E. Coli bacteremia but unclear
   why leukocytosis is worsening.  Repeat UA shows pyuria, urine culture
   is pending.  All other cultures including stool studies negative;
   cholangitis unlikely.  Given AMS and leukocytosis, concern for SBP
   - Diagnostic paracentesis
   -F/u Bcxs, repeat Ucx; could have new ventilator acquired PNA;
   -Sputum studies sent
   -Off pressors
   -CT abdomen to eval for new infectious etiology given rising WBC count
   pending
   -On ceftriaxone day 4 as per ID recs: likely will need 2 wk course from
   date of first negative blood culture, but will start zosyn/vanc and re
   consult ID
   - Stool for c.diff
   # [**Name (NI) 10704**] unclear etiology, sedation weaned, continues to have poor neuro
   exam.  Likely toxic/metabolic from liver failure, sepsis, also consider
   ischemia/hemorrhage.
   -given mental status change, obtained CT head- nothing acute
   #  Respiratory Failure:  Maintained sats, improving  secretions.
   - CXR with bilateral lung collapse
   - optimize vent settings, increase PEEP
   - continue to monitor gases; if improved with PaO2 72 yesterday pm,
   pending this am if PaO2 > 80 can consider weaning down on FiO2
   - Continue tx of underlying sepsis
   - f/u records to determine if PE was considered
   - pull back ET tube
   # Hypertension - BPs were mostly in the 150s - 170s; got labetalol IV 5
   mg X 1 this am.
   -Would continue to hold nadolol, sprininolactone, lasix in setting of
   rising creatinine
   -Give labetalol PRN SBP > 160
   #  Thrombocytopenia/Elevated Coags -  At admission had low platelets
   likely secondary to cirrhosis (low thrombopoetin, portal HTN, splenic
   sequestration).  Platelets are stable in 30s to 50s.  Fibrinogen, FDP,
   coags had been stable and not rising and does not appear to be actively
   bleeding.  Blood smear shows no microangiopathic changes which further
   argues against DIC.  Rather than DIC could be secondary to acute
   worsening of liver disease in setting of sepsis.
   -Can check daily coags, platelets; no need to follow FDP or fibrinogen
   -Continue to treat underlying cause  (sepsis)
   #  Oliguria:  UOP responds to lasix, given x1. UOP drops off when lasix
   stopped.  However reatinine and BUN have also been slowly trending up:
   Cr went from 0.7 to 1.1 to 1.2, likely secondary to prerenal etiology
   also concern for hepatorenal syndrome.
   - Give albumin 50 and monitor UOP for response
   - Urine electrolytes, UNa <10, UCr 130, UOsm 475, send urine sediment
   - Hold off on diuresis to avoid becoming intravascularly dry, however
   can consider lasix gtt
   - Monitor  Is and Os today; could even consider giving some fluids if
   urine output continues to be low.
   #  Cryptogenic cirrhosis: LFTs increasing, TBili 6.9
   - RUQ u/s for signs of obstruction
   - Hemolysis labs
   -Holding nadolol; continue spirinolactone and lasix.
   #  Bright red blood per rectum: HCTs have been stable over last 4
   days.
   -Maintain active type + screen
   -Follow daily HCTs
   -transfuse if HCT falls below 21
   -IV PPI 40 mg [**Hospital1 7**]
    # Metabolic Acidosis
 Lactic acid levels have improved with treatment
   of bacteremia.
   # FEN:  Started on TF three days ago.  Repleting electrolytes as
   necessary.
   # Access: L IJ
   -pull back line, it is in azygous vein
   #  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   -d/c SQ heparin
   #  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-8**] 06:05 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-08 11:20:00 Physician Attending Progress Note
Chief Complaint: GI Bleed/Blood Loss Anemia, Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   U/O decreased to 25cc per hour overnight
   24 Hour Events:
 SPUTUM CULTURE - At [**2126-10-7**] 11:09 AM
 STOOL CULTURE - At [**2126-10-7**] 11:09 AM
   CT head wet read without any acute changes
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-8**] 08:31 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-10-7**] 08:06 PM
   Labetalol - [**2126-10-8**] 12:19 AM
   Furosemide (Lasix) - [**2126-10-8**] 12:55 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-10-8**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 95 (92 - 106) bpm
   BP: 136/67(82) {129/52(67) - 175/102(113)} mmHg
   RR: 20 (17 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.8 kg (admission): 98.4 kg
   Height: 63 Inch
   CVP: 16 (12 - 20)mmHg
   Total In:
                                                                  1,811 mL
                                                                  1,405 mL
   PO:
   TF:
                                                                    701 mL
                                                                    435 mL
   IVF:
                                                                    170 mL
                                                                    550 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,691 mL
                                                                    650 mL
   Urine:
                                                                    681 mL
                                                                    425 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
                                                                    110 mL
   Balance:
                                                                    120 mL
                                                                    755 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 98%
   ABG: ///29/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   77 K/uL
   122 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.6 mEq/L
   87 mg/dL
   106 mEq/L
   141 mEq/L
   32.6 %
   21.5 K/uL
        [image002.jpg]
                            [**2126-10-5**]  02:13 PM
                            [**2126-10-5**]  05:49 PM
                            [**2126-10-6**]  03:12 AM
                            [**2126-10-6**]  04:11 PM
                            [**2126-10-6**]  04:23 PM
                            [**2126-10-7**]  12:58 AM
                            [**2126-10-7**]  01:52 AM
                            [**2126-10-7**]  10:00 AM
                            [**2126-10-8**]  04:02 AM
                            [**2126-10-8**]  06:10 AM
   WBC
   15.1
   19.7
   21.5
   Hct
   34.5
   35.8
   31.7
   32.6
   Plt
   34
   50
   77
   Cr
   0.7
   0.7
   0.9
   1.1
   1.2
   TCO2
   30
   32
   31
   Glucose
   127
   112
   122
   97
   174
   122
   Other labs: PT / PTT / INR:40.4/60.5/4.2, CK / CKMB / Troponin-T:59//,
   ALT / AST:39/113, Alk Phos / T Bili:121/8.9, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.6 mmol/L, Albumin:1.8
   g/dL, LDH:476 IU/L, Ca++:7.8 mg/dL, Mg++:3.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   58 yo female with cryptogenic cirrhosis admitted with GI bleed in the
   setting of cirrhosis, E.coli sepsis, respiratory failure in setting of
   large volume resusitation
   1) Sepsis - Initial E. coli sepsis resolved. On CTX.  WBC continues to
   rise but fever curve down.  U/A initially c/w infection - awaiting
   culture.  Will f/u on CT abdoment result
   2) Respiratory Failure - Has some volume loss on CXR.  Will increase
   PEEP to 12 and sit up in bed slightly more, follow CXR.
   3)GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)-
    -PPI iV.  Hct stable
   4) Renal failure:  No further diuresis.   Cr now up - will  give back a
   500cc of saline.
   5) Diminished mental status: Head CT without any evidence of an acute
   event.  Continues to have poor mental status.
   6) Liver Failure: Her bilirubins are rising which could explain her
   mental status.  Will give lactulose
   Remnainder of issues per ICU team
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2126-10-8**] 06:05 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2126-10-09 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - diagnositic paracentesis without adequate sample, IR tomorrow for
   paracentesis
   - pan cultured, ID reconsulted: repeat cultures, consider line
   infection, para, ceftriaxone, flagyl
   - Abx changed to zosyn/vanc/flagyl
   - Continued HTN with several doses of labetolol throughout the day,
   consider scheduled beta blocker?
   - improved UOP s/p albumin, now 50g q6
   - improving mental status
   - decreased Hct 32.6 -> 27.2 -> 27.9 -> 26.2, stable, guiac positive
   - recalculated MELD, now 30 from 17... consider transplant options
   - Imaging:
   1. Abd u/s with dopplers: cirrhotic liver without focal lesions,
   cholelithiasis, no biliary dilatation or sign of cholecystitis.
   Mild splenomegaly. Large amount of ascites. Reverse flow in the portal
   veins.
     2. CT abd (wet read): Cirrhotic liver, moderate ascites increased
   from previous, nonspecific small bowel thickening, cholelithiasis, b/l
   pleural effusions and atelectasis
     3. CT head: no definite findings to account for sx, coarsely
   calcified nodule in R putamen, nonspecific, ?neurocysticercosis not
   excluded, MRI rec for better clarificiation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-8**] 08:31 AM
   Piperacillin - [**2126-10-9**] 02:31 AM
   Metronidazole - [**2126-10-9**] 03:16 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2126-10-8**] 10:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-9**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 92 (89 - 105) bpm
   BP: 146/64(83) {123/51(63) - 174/94(108)} mmHg
   RR: 18 (17 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.8 kg (admission): 98.4 kg
   Height: 63 Inch
    CVP: 17 (12 - 20)mmHg
   Total In:
                                                                  3,039 mL
                                                                    760 mL
   PO:
   TF:
                                                                    965 mL
                                                                    250 mL
   IVF:
                                                                    750 mL
                                                                    200 mL
   Blood products:
                                                                    544 mL
                                                                     50 mL
   Total out:
                                                                  1,275 mL
                                                                    990 mL
   Urine:
                                                                  1,050 mL
                                                                    290 mL
   NG:
                                                                      5 mL
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                  1,764 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 13 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 96%
   ABG: 7.54/35/81.[**Numeric Identifier 218**]/31/6
   Ve: 8.1 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Intubated, follows commands, Moves all extremities, Opens eyes to voice
   RRR, diffuse decreased breath sounds
   Abdomen distended with fluid wave, no guarding
   Diffuse edema
   Labs / Radiology
   65 K/uL
   9.0 g/dL
   99 mg/dL
   1.3 mg/dL
   31 mEq/L
   4.1 mEq/L
   94 mg/dL
   108 mEq/L
   145 mEq/L
   26.2 %
   12.2 K/uL
        [image002.jpg]
                            [**2126-10-6**]  04:23 PM
                            [**2126-10-7**]  12:58 AM
                            [**2126-10-7**]  01:52 AM
                            [**2126-10-7**]  10:00 AM
                            [**2126-10-8**]  04:02 AM
                            [**2126-10-8**]  06:10 AM
                            [**2126-10-8**]  05:43 PM
                            [**2126-10-8**]  09:02 PM
                            [**2126-10-8**]  09:25 PM
                            [**2126-10-9**]  04:05 AM
   WBC
   19.7
   21.5
   14.9
   12.2
   Hct
   35.8
   31.7
   32.6
   27.2
   27.9
   26.2
   Plt
   50
   77
   65
   65
   Cr
   1.1
   1.2
   1.2
   1.3
   TCO2
   32
   31
   31
   Glucose
   97
   174
   122
   105
   99
   Other labs: PT / PTT / INR:36.7/55.4/3.8, CK / CKMB / Troponin-T:59//,
   ALT / AST:32/100, Alk Phos / T Bili:96/10.4, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.7
   g/dL, LDH:368 IU/L, Ca++:8.4 mg/dL, Mg++:3.5 mg/dL, PO4:3.7 mg/dL
   Imaging:   1. Abd u/s with dopplers: cirrhotic liver without focal
   lesions, cholelithiasis, no biliary dilatation or sign of
   cholecystitis.
   Mild splenomegaly. Large amount of ascites. Reverse flow in the portal
   veins.
     2. CT abd (wet read): Cirrhotic liver, moderate ascites increased
   from previous, nonspecific small bowel thickening, cholelithiasis, b/l
   pleural effusions and atelectasis
     3. CT head: no definite findings to account for sx, coarsely
   calcified nodule in R putamen, nonspecific, ?neurocysticercosis not
   excluded, MRI rec for better clarificiation
     4. CXR: bilateral basilar collapse, L pleural effusion
   Microbiology: Cultures pending (urine, blood, stool, sputum)
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices with
   MELD score of 17, who has chronic total bilirubin of 2.0 and INR of 1.8
   to 2.0 presents with bright red blood per rectum, fevers, diarrhea and
   apparent septic shock
   #  Sepsis
 Pt with decreasing WBC count to 21.5 -> 12.2.   Has been
   afebrile >48hr.   ID consult yesterday given AMS and worsening
   leukocytosis.  Abx: continued ceftriaxone, added vanc/zosyn/flagyl on
   [**10-8**].  Source of prior sepsis likely E. Coli bacteremia but unclear
   why leukocytosis is worsening.  Concern for SBP, paracentesis
   unsuccessful yesterday.  Repeat Cx including stool and sputum pending.
   All other cultures to date including stool studies negative;
   cholangitis unlikely.
   - Diagnostic paracentesisin IR
   -F/u Bcxs, repeat Ucx; could have new ventilator acquired PNA;
   -Sputum studies sent,  Stool for c.diff
   -Off pressors
   -CT abdomen negative for new infectious etiology given rising WBC count
   pending
   -On ceftriaxone day 5 as per ID recs: likely will need 2 wk course from
   date of first negative blood culture, zosyn/vanc/flagyl day 2
   # [**Name (NI) 10704**] unclear etiology, sedation weaned, improved metal status, now
   interacitve with family, moving all extremities.  Likely
   toxic/metabolic from liver failure, sepsis, also consider
   ischemia/hemorrhage.
   - CT head- nothing acute
   - given improvement, continue to monitor
   #  Respiratory Failure:  Maintained sats, improving  secretions.
   Alkalosis, PEEP increased yesterday.  Likely worsened by effusions and
   moderate ascites.
   - Optimize vent settings, wean to PSV
   - continue to monitor gases; if improved with PaO2 81 yesterday pm,
   pending this am if PaO2 > 80 can consider weaning down on FiO2
   - Continue tx of underlying sepsis
   - f/u records to determine if PE was considered
   # Hypertension - BPs were mostly in the 150s - 170s; got labetalol IV 5
   mg X 1 overnight.
   -Would continue to hold nadolol, sprininolactone, lasix in setting of
   rising creatinine
   - Start labetalol 100mg [**Hospital1 7**]
   -Give labetalol PRN SBP > 160
   #  Oliguria:  UOP increased with albumin, now given q6hr.  However
   creatinine and BUN have also been slowly trending up:  Cr went from 0.7
   -> 1.2  -> 1.3 today, likely secondary to prerenal etiology also
   concern for hepatorenal syndrome.
   - Continue albumin and monitoring of UOP
   - Urine electrolytes, UNa <10, UCr 130, UOsm 475, urine sediment sent
   - Hold off Lasix to avoid becoming intravascularly dry, however if
   persistant low UOP can consider lasix gtt
   # Decreased Hct- trending down 32.6 -> 27.2 -> 27.9 -> 26.2, trace heme
   positive, CT negative, unclear etiology
   concern for hemolysis/TTP given hapto <20, TBili 8.9-> 10.4 (Direct
   4.5).  Also consider complications of bedside paracentesis as cause for
   hct drop
   - repeat peripheral smear
   - Trend hct
   - Eval for hemorrhage during u/s for paracentesis
   -monitor
   -active T&S
   #  Thrombocytopenia/Elevated Coags -  At admission had low platelets
   likely secondary to cirrhosis (low thrombopoetin, portal HTN, splenic
   sequestration).  Platelets are stable in 30s to 50s.  Fibrinogen, FDP,
   coags had been stable and not rising and does not appear to be actively
   bleeding.  Blood smear shows no microangiopathic changes which further
   argues against DIC.  Rather than DIC could be secondary to acute
   worsening of liver disease in setting of sepsis.   INR 3.8.
   - Vitamin K for rising INR
   -Can check daily coags, platelets; no need to follow FDP or fibrinogen
   -Continue to treat underlying cause  (sepsis)
   #  Cryptogenic cirrhosis: LFTs increasing, TBili 6.9 ->10.4, MELD
   recalculated to 30
   - RUQ u/s negative for obstruction but with reverse flow
   - Holding nadolol, spirinolactone and lasix.
   - Consider transplant w/u
   #  Bright red blood per rectum: HCTs have been stable over last 4
   days.
   -Maintain active type + screen
   -Follow daily HCTs
   -transfuse if HCT falls below 21
   -IV PPI 40 mg [**Hospital1 7**]
    # Metabolic Acidosis
 Lactic acid levels have improved with treatment
   of bacteremia.
   # FEN:  Started on TF four days ago.  Repleting electrolytes as
   necessary.
   # Access: L IJ
   -pulled back line
   #  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   - SQ heparin d/c'd
   #  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-8**] 08:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-09 09:58:00 Physician Attending Progress Note
Chief Complaint: Septic shock/E. coli bacteremia, GI Bleed, Respiratory
   Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Improving mental status
   24 Hour Events:
 ULTRASOUND - At [**2126-10-8**] 12:54 PM -
 PARACENTESIS - At [**2126-10-8**] 03:18 PM
   unsuccessful.
   Increased urine output in response to albumin
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-8**] 08:31 AM
   Piperacillin - [**2126-10-9**] 02:31 AM
   Metronidazole - [**2126-10-9**] 03:16 AM
   Vancomycin - [**2126-10-9**] 08:35 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2126-10-8**] 10:36 AM
   Pantoprazole (Protonix) - [**2126-10-9**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-10-9**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 95 (89 - 105) bpm
   BP: 155/63(85) {123/51(63) - 174/94(108)} mmHg
   RR: 21 (18 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.8 kg (admission): 98.4 kg
   Height: 63 Inch
   CVP: 16 (15 - 20)mmHg
   Total In:
                                                                  3,039 mL
                                                                  1,491 mL
   PO:
   TF:
                                                                    965 mL
                                                                    381 mL
   IVF:
                                                                    750 mL
                                                                    410 mL
   Blood products:
                                                                    544 mL
                                                                    250 mL
   Total out:
                                                                  1,275 mL
                                                                  1,215 mL
   Urine:
                                                                  1,050 mL
                                                                    515 mL
   NG:
                                                                      5 mL
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                  1,764 mL
                                                                    276 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 13 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 98%
   ABG: 7.54/35/81.[**Numeric Identifier 218**]/31/6
   Ve: 8.1 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, nodded yes and no
   with interpreter
   Labs / Radiology
   9.0 g/dL
   65 K/uL
   99 mg/dL
   1.3 mg/dL
   31 mEq/L
   4.1 mEq/L
   94 mg/dL
   108 mEq/L
   145 mEq/L
   26.2 %
   12.2 K/uL
        [image002.jpg]
                            [**2126-10-6**]  04:23 PM
                            [**2126-10-7**]  12:58 AM
                            [**2126-10-7**]  01:52 AM
                            [**2126-10-7**]  10:00 AM
                            [**2126-10-8**]  04:02 AM
                            [**2126-10-8**]  06:10 AM
                            [**2126-10-8**]  05:43 PM
                            [**2126-10-8**]  09:02 PM
                            [**2126-10-8**]  09:25 PM
                            [**2126-10-9**]  04:05 AM
   WBC
   19.7
   21.5
   14.9
   12.2
   Hct
   35.8
   31.7
   32.6
   27.2
   27.9
   26.2
   Plt
   50
   77
   65
   65
   Cr
   1.1
   1.2
   1.2
   1.3
   TCO2
   32
   31
   31
   Glucose
   97
   174
   122
   105
   99
   Other labs: PT / PTT / INR:36.7/55.4/3.8, CK / CKMB / Troponin-T:59//,
   ALT / AST:32/100, Alk Phos / T Bili:96/10.4, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.7
   g/dL, LDH:368 IU/L, Ca++:8.4 mg/dL, Mg++:3.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   58 yo female with cryptogenic cirrhosis admitted with GI bleed in the
   setting of cirrhosis, E.coli sepsis, respiratory failure in setting of
   large volume resusitation
   1) Sepsis - Cont CTX for E.coli.  Vanc/Zosyn/Flagyl added on for
   fevers, increased WBC - fever curve now down, WBC now down. Will try to
   get paracentesis by IR.
   2) Respiratory Failure - CXR showing bilateral effusions.  Will try to
   change back to PSV given improvement in mental status.
   3)GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)-
   Hct significantly down but hemodynamically stable.  No bloody stools.
   Will be able to look for evidence of intraperitoneal blood (given
   yestrday's aparacentesis attempt) during today's U/S guided
   paracentesis.  [**Month (only) 51**] also have some hemodilution from volume shifts with
   albumin.
   4) Renal failure:  Cr up to 1.3 today but BUN leveling off and urine
   output improving with albumin.
   5) Diminished mental status: Mental status significantly improved today
   6) Liver Failure: Bilirubuin continues to rise with significant
   indirect component - haptoglobin down
   7) Hypertension: labetolol prn
   Remnainder of issues per ICU team
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-9**] 09:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2126-10-10 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -f/u cultures: repeat O+P negative, C diff negative, Bcxs other stool
   studies pending
   -Vitamin K given
   -IR paracentesis performed and eval for bleed which showed: WBC 298
   (82% polys) 498 RBCs
   -100 labetalol given [**Hospital1 7**]
   -PM lytes and HCT showed:
   -liver recs: D/c morphine, follow LFts, if HCT continues to fall
   conside abdominal imaging; continue albumin (we decreased dose to [**Hospital1 7**])
   -PEEP decreased from 13-> 10 evening ABG was: 81* 35 7.54*
   -concentrated vanc to minimize amount of IV fluids being received
   -by PM making 60 ccs / hr; overall + 1 L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-8**] 08:31 AM
   Vancomycin - [**2126-10-9**] 08:35 AM
   Metronidazole - [**2126-10-9**] 06:00 PM
   Piperacillin - [**2126-10-10**] 12:34 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-10-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-10**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 92 (79 - 98) bpm
   BP: 140/63(80) {118/49(66) - 157/80(89)} mmHg
   RR: 25 (17 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.8 kg (admission): 98.4 kg
   Height: 63 Inch
    CVP: 25 (16 - 29)mmHg
   Total In:
                                                                  4,215 mL
                                                                    619 mL
   PO:
   TF:
                                                                    960 mL
                                                                    259 mL
   IVF:
                                                                    810 mL
                                                                    100 mL
   Blood products:
                                                                  1,615 mL
                                                                    100 mL
   Total out:
                                                                  3,175 mL
                                                                    360 mL
   Urine:
                                                                  1,475 mL
                                                                    360 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                  1,040 mL
                                                                    259 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   SpO2: 98%
   ABG: ///30/
   Ve: 7.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   58 K/uL
   7.5 g/dL
   87 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.8 mEq/L
   91 mg/dL
   108 mEq/L
   145 mEq/L
   22.4 %
   7.7 K/uL
        [image002.jpg]
                            [**2126-10-7**]  10:00 AM
                            [**2126-10-8**]  04:02 AM
                            [**2126-10-8**]  06:10 AM
                            [**2126-10-8**]  05:43 PM
                            [**2126-10-8**]  09:02 PM
                            [**2126-10-8**]  09:25 PM
                            [**2126-10-9**]  04:05 AM
                            [**2126-10-9**]  12:04 PM
                            [**2126-10-9**]  08:28 PM
                            [**2126-10-10**]  03:21 AM
   WBC
   21.5
   14.9
   12.2
   7.6
   7.7
   Hct
   31.7
   32.6
   27.2
   27.9
   26.2
   22.3
   22.4
   Plt
   77
   65
   65
   54
   58
   Cr
   1.2
   1.2
   1.3
   1.3
   1.2
   1.0
   TCO2
   31
   Glucose
   174
   122
   105
   99
   107
   87
   Other labs: PT / PTT / INR:28.8/46.9/2.8, CK / CKMB / Troponin-T:59//,
   ALT / AST:30/92, Alk Phos / T Bili:82/11.1, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.3
   g/dL, LDH:293 IU/L, Ca++:8.9 mg/dL, Mg++:3.6 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: Peritoneal Fluid:
   Gram Stain Negative
   WBC  298
     Poly  83  (247)
     Lymph  12
     Mono  4
   RBC  498
   Protein  0.5
   Glucose  110
   LDH  135
   Albumin: <1
   Peripheral Smear negative
   Imaging: CXR
   Microbiology: Sputum [**10-8**]:
         1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   Urine and Blood Cx Pending
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices with
   MELD score of 17, who has chronic total bilirubin of 2.0 and INR of 1.8
   to 2.0 presents with bright red blood per rectum, fevers, diarrhea and
   apparent septic shock
   #  Sepsis
 Pt with decreasing WBC count to 21.5 -> 12.2 -> 7.7.   Has
   been afebrile x3d.   ID consult yesterday given AMS and worsening
   leukocytosis.  Abx: ceftriaxone day 6, vanc/zosyn/flagyl day 3.  Source
   of prior sepsis likely E. Coli bacteremia now improving leukocytosis.
   Paracentesis with ANC 247, Gram stain negative.  Repeat Cx: negative
   stool  remainder pending.  All other cultures to date including stool
   studies negative. Cholangitis unlikely given negative u/s and CT.
   - Clinical improvement, continue course with 2wks ceftriaxone after of
   first negative blood culture
   - F/u ID recs re antibiotics
   -F/u Bcxs, repeat Ucx; could have new ventilator acquired PNA;
   -Sputum studies sent,  Stool for c.diff
   -Off pressors
   -CT abdomen negative for new infectious etiology given rising WBC count
   pending
   #  Respiratory Failure:  Maintained sats, improving  secretions.
   Alkalosis, PEEP decreased yesterday, tolerated PSV.  Likely worsened by
   effusions and moderate ascites.
   - Wean vent settings as tolerated
   - continue to monitor gases; if improved with PaO2 81 yesterday pm
   - Continue tx of underlying sepsis
    # [**Name (NI) 10704**] unclear etiology, sedation weaned, improving metal status, now
   interacitve with family, moving all extremities.  Likely
   toxic/metabolic from liver failure, sepsis, also consider
   ischemia/hemorrhage.
   - CT head- nothing acute
   - given improvement, continue to monitor
   # Hypertension - BPs were mostly in the 150s - 170s; started labetolol
   100mg PO no IV needed
   -Give labetalol PRN SBP > 160
   #  Oliguria:  UOP improved with albumin, now given [**Hospital1 7**].  However
   creatinine and BUN improving:  Cr went from 1.3 -> 1.0 today, likely
   secondary to prerenal etiology also concern for hepatorenal syndrome.
   - Urine electrolytes, UNa <10, UCr 130, UOsm 475, urine sediment sent
   - Continue albumin and monitoring of UOP
   - Hold off Lasix to avoid becoming intravascularly dry, however if
   persistant low UOP can consider lasix gtt
   # Decreased Hct- trending down 22.4, trace heme positive, CT negative,
   unclear etiology
   - No comment on hemorrhage during u/s for paracentesis
   - Repeat CT abd with contrast, premedicate
   - concern for hemolysis/TTP given hapto <20, TBili 8.9-> 10.4 (Direct
   4.5).  Also consider complications of bedside paracentesis as cause for
   hct drop
   - repeat peripheral smear negative
   - Trend hct
   - active T&S
   #  Thrombocytopenia/Elevated Coags -  At admission had low platelets
   likely secondary to cirrhosis (low thrombopoetin, portal HTN, splenic
   sequestration).  Platelets are stable in 30s to 50s.  INR improved 3.8
   -> 2.8 with Vitamin K and FFP for procedure.
   -Can check daily coags, platelets; no need to follow FDP or fibrinogen
   -Continue to treat underlying cause  (sepsis)
   #  Cryptogenic cirrhosis: LFTs increasing, TBili rising, MELD
   recalculated to 30
   - RUQ u/s negative for obstruction but with reverse flow
   - Holding nadolol, spirinolactone and lasix.
   - Follow Liver recs
   #  Bright red blood per rectum: heme positive but no gross bleeding
   -Maintain active type + screen
   -Follow daily HCTs
   -transfuse if HCT falls below 21
   -IV PPI 40 mg [**Hospital1 7**]
   # FEN:  Started on TF four days ago.  Repleting electrolytes as
   necessary.
   # Access: L IJ
   #  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   #  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-9**] 09:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-10 11:31:00 Physician Attending Progress Note
Chief Complaint: Liver failure, GI Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had paracentesis yesterday by IR - small pocket with WBC of 298, c/w
   SBP
   24 Hour Events:
   Urine output improved
   Hct continues to trend down - now 22
   History obtained from Medical records, icu team
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-8**] 08:31 AM
   Metronidazole - [**2126-10-9**] 06:00 PM
   Piperacillin - [**2126-10-10**] 12:34 AM
   Vancomycin - [**2126-10-10**] 08:27 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-10-10**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 77 (77 - 94) bpm
   BP: 119/55(70) {118/49(66) - 166/80(89)} mmHg
   RR: 26 (17 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.8 kg (admission): 98.4 kg
   Height: 63 Inch
   CVP: 25 (19 - 29)mmHg
   Total In:
                                                                  4,215 mL
                                                                  1,208 mL
   PO:
   TF:
                                                                    960 mL
                                                                    448 mL
   IVF:
                                                                    810 mL
                                                                    300 mL
   Blood products:
                                                                  1,615 mL
                                                                    100 mL
   Total out:
                                                                  3,175 mL
                                                                    665 mL
   Urine:
                                                                  1,475 mL
                                                                    665 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                  1,040 mL
                                                                    543 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 350 (350 - 360) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 26
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: No acute distress, more awake
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, No(t) Non-tender, mild tenderness over paracentesis
   site
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   58 K/uL
   87 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.8 mEq/L
   91 mg/dL
   108 mEq/L
   145 mEq/L
   22.4 %
   7.7 K/uL
        [image002.jpg]
                            [**2126-10-7**]  10:00 AM
                            [**2126-10-8**]  04:02 AM
                            [**2126-10-8**]  06:10 AM
                            [**2126-10-8**]  05:43 PM
                            [**2126-10-8**]  09:02 PM
                            [**2126-10-8**]  09:25 PM
                            [**2126-10-9**]  04:05 AM
                            [**2126-10-9**]  12:04 PM
                            [**2126-10-9**]  08:28 PM
                            [**2126-10-10**]  03:21 AM
   WBC
   21.5
   14.9
   12.2
   7.6
   7.7
   Hct
   31.7
   32.6
   27.2
   27.9
   26.2
   22.3
   22.4
   Plt
   77
   65
   65
   54
   58
   Cr
   1.2
   1.2
   1.3
   1.3
   1.2
   1.0
   TCO2
   31
   Glucose
   174
   122
   105
   99
   107
   87
   Other labs: PT / PTT / INR:28.8/46.9/2.8, CK / CKMB / Troponin-T:59//,
   ALT / AST:30/92, Alk Phos / T Bili:82/11.1, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.3
   g/dL, LDH:293 IU/L, Ca++:8.9 mg/dL, Mg++:3.6 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   58 yo female with cryptogenic cirrhosis admitted with GI bleed in the
   setting of cirrhosis, E.coli sepsis, respiratory failure in setting of
   large volume resusitation
   1) Sepsis - Cont Vanc/Zosyn added on for fevers.  Paracentesis c/w
   SBP.  Fevers, WBC down
   2) Respiratory Failure - Tolerating PSV.  Continues to need fluid off.
   Large effusions are limiting at the moment
   3)GI Bleed
   Hct continues to fall.  No source identified, stools non-bloody.
   Hemolysis labs positive - continue to follow.  CT abd if it continues
   to fall.
   4) Renal failure:  Cr back down to 1.0.  Limit Lasix for now.  [**Hospital1 7**]
   albumin
   5) Diminished mental status: Mental status continues to improve
   6) Liver Failure: Hemoglobin
   7) Hypertension: labetolol prn
   Remnainder of issues per ICU team
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-10**] 09:13 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2126-10-11 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - no documentation of r/o Wilson's --> sent for 24 hr urine copper
   - if UOP not negative, trial of Lasix drip tomorrow
   - no growth from periotoneal cultures
   - Hepatology - ? variceal bleed
   - ID: if BCx neg d/c vanco, if Cdiff neg d/c flagyl, cont Zosyn,
   followed by ppx with Cipro 750mg qweek
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-8**] 08:31 AM
   Metronidazole - [**2126-10-9**] 06:00 PM
   Piperacillin - [**2126-10-10**] 12:34 AM
   Vancomycin - [**2126-10-10**] 08:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2126-10-10**] 05:46 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-11**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 83 (76 - 89) bpm
   BP: 139/61(80) {119/49(66) - 153/76(119)} mmHg
   RR: 24 (20 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.8 kg (admission): 98.4 kg
   Height: 63 Inch
                  Total In:
                                                                  2,200 mL
                                                                    750 mL
   PO:
                  TF:
                                                                    960 mL
                                                                    290 mL
   IVF:
                                                                    500 mL
   Blood products:
                                                                    150 mL
                                                                    200 mL
   Total out:
                                                                  1,995 mL
                                                                    730 mL
   Urine:
                                                                  1,395 mL
                                                                    430 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                    205 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 368 (350 - 368) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 98%
   ABG: ///29/
   Ve: 9.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   62 K/uL
   7.5 g/dL
   96 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   90 mg/dL
   110 mEq/L
   148 mEq/L
   22.8 %
   9.1 K/uL
        [image002.jpg]
                            [**2126-10-8**]  06:10 AM
                            [**2126-10-8**]  05:43 PM
                            [**2126-10-8**]  09:02 PM
                            [**2126-10-8**]  09:25 PM
                            [**2126-10-9**]  04:05 AM
                            [**2126-10-9**]  12:04 PM
                            [**2126-10-9**]  08:28 PM
                            [**2126-10-10**]  03:21 AM
                            [**2126-10-10**]  03:21 PM
                            [**2126-10-11**]  03:55 AM
   WBC
   14.9
   12.2
   7.6
   7.7
   9.1
   Hct
   32.6
   27.2
   27.9
   26.2
   22.3
   22.4
   22.9
   22.8
   Plt
   65
   65
   54
   58
   63
   62
   Cr
   1.2
   1.3
   1.3
   1.2
   1.0
   1.3
   1.0
   TCO2
   31
   Glucose
   105
   99
   107
   87
   92
   96
   Other labs: PT / PTT / INR:28.8/46.9/2.8, CK / CKMB / Troponin-T:59//,
   ALT / AST:35/112, Alk Phos / T Bili:94/13.3, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.3
   g/dL, LDH:293 IU/L, Ca++:9.1 mg/dL, Mg++:3.7 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR
   Microbiology: Stool, sputum cx negative
   Peritoneal cx negative
   Blood and urine pending
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices with
   MELD score of 17, who has chronic total bilirubin of 2.0 and INR of 1.8
   to 2.0 presents with bright red blood per rectum, fevers, diarrhea and
   apparent septic shock
   #  Sepsis
 Pt with stable WBC, afebrile.   Paracentesis with ANC 247,
   Gram stain negative, culture negative currently, still likely SBP.
   Abx: vanc/zosyn/flagyl day 4.  Source of prior sepsis likely E. Coli
   bacteremia.  Repeat Cx: negative stool  remainder pending.  All other
   cultures to date including stool studies negative. Cholangitis unlikely
   given negative u/s and CT.
   - Clinical improvement, off pressors, flagyl, vanc and zosyn
   - F/u ID recs
   - F/u Bcxs, repeat Ucx; could have new ventilator acquired PNA;
   #  Respiratory Failure:  Maintained sats, improving  secretions.
   Alkalosis, PEEP decreased yesterday, tolerated PSV for longer.  Likely
   worsened by effusions and moderate ascites.
   - Wean vent settings as tolerated
   - continue to monitor gases
   - Continue tx of underlying sepsis and encourage UOP as discussed below
   # Decreased Hct- trending down now stable, trace heme positive, CT
   negative, unclear etiology. concern for hemolysis/TTP given hapto <20,
   TBili 8.9-> 10.4 (Direct 4.5), repeat peripheral smear negative
   - No comment on hemorrhage during u/s for paracentesis
   - Consider Repeat CT abd with contrast if hct drops futher, premedicate
   for renal protection
   - Trend hct, [**Hospital1 7**]
   - active T&S
   # Hypertension - BPs were mostly in the 150s - 170s; labetolol 100mg
   PO, no IV needed
   -Give labetalol PRN SBP > 160
   #  Oliguria:  UOP 55cc/hr  improved with albumin, now given [**Hospital1 7**].
   However creatinine and BUN improving:  Cr 1.0 , likely secondary to
   prerenal etiology also concern for hepatorenal
   - Urine electrolytes, UNa <10, UCr 130, UOsm 475
   - Continue albumin and monitoring of UOP
   - Trial Lasix gtt to encourage UOP goal 100/hr- 40cc bolus, 2-15/hr
   (home dose 120, 80)
   # [**Name (NI) 10704**] unclear etiology, sedation weaned, improving metal status, now
   interacitve, moving all extremities.  Likely toxic/metabolic from liver
   failure, sepsis, also consider ischemia/hemorrhage.
   - CT head- nothing acute
   - given improvement, continue to monitor
   #  Thrombocytopenia/Elevated Coags -  At admission had low platelets
   likely secondary to cirrhosis (low thrombopoetin, portal HTN, splenic
   sequestration).  Platelets are stable in 30s to 50s.  INR improved 3.8
   -> 2.8 with Vitamin K and FFP for procedure.
   -Can check daily coags, platelets; no need to follow FDP or fibrinogen
   -Continue to treat underlying cause  (sepsis)
   #  Cryptogenic cirrhosis: LFTs increasing, TBili rising, MELD
   recalculated to 30
   - 24hr Urine copper for Wilsons
   - RUQ u/s negative for obstruction but with reverse flow
   - Holding nadolol, spirinolactone and lasix.
   - Follow Liver recs
   #  Bright red blood per rectum: heme positive but no gross bleeding
   -Maintain active type + screen
   -Follow daily HCTs
   -transfuse if HCT falls below 21
   -IV PPI 40 mg [**Hospital1 7**]
   # FEN:  Started on TF four days ago.  Repleting electrolytes as
   necessary.
   # Access: L IJ
   #  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   #  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-10**] 09:13 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-11 11:28:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Cryptogenic cirrhosis, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2126-10-9**] 06:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2126-10-10**] 05:46 PM
   Vancomycin - [**2126-10-11**] 08:00 AM
   Piperacillin - [**2126-10-11**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-10-11**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 79 (76 - 85) bpm
   BP: 140/62(80) {121/49(66) - 153/76(119)} mmHg
   RR: 24 (20 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.8 kg (admission): 98.4 kg
   Height: 63 Inch
           Total In:
                                                                  2,200 mL
                                                                  1,329 mL
   PO:
           TF:
                                                                    960 mL
                                                                    409 mL
   IVF:
                                                                    500 mL
                                                                    300 mL
   Blood products:
                                                                    150 mL
                                                                    200 mL
   Total out:
                                                                  1,995 mL
                                                                    950 mL
   Urine:
                                                                  1,395 mL
                                                                    650 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                    205 mL
                                                                    379 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 368 (368 - 368) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 100%
   ABG: ///29/
   Ve: 9 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases b/l (anteriorly))
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   62 K/uL
   96 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   90 mg/dL
   110 mEq/L
   148 mEq/L
   22.8 %
   9.1 K/uL
        [image002.jpg]
                            [**2126-10-8**]  06:10 AM
                            [**2126-10-8**]  05:43 PM
                            [**2126-10-8**]  09:02 PM
                            [**2126-10-8**]  09:25 PM
                            [**2126-10-9**]  04:05 AM
                            [**2126-10-9**]  12:04 PM
                            [**2126-10-9**]  08:28 PM
                            [**2126-10-10**]  03:21 AM
                            [**2126-10-10**]  03:21 PM
                            [**2126-10-11**]  03:55 AM
   WBC
   14.9
   12.2
   7.6
   7.7
   9.1
   Hct
   32.6
   27.2
   27.9
   26.2
   22.3
   22.4
   22.9
   22.8
   Plt
   65
   65
   54
   58
   63
   62
   Cr
   1.2
   1.3
   1.3
   1.2
   1.0
   1.3
   1.0
   TCO2
   31
   Glucose
   105
   99
   107
   87
   92
   96
   Other labs: PT / PTT / INR:28.8/46.9/2.8, CK / CKMB / Troponin-T:59//,
   ALT / AST:35/112, Alk Phos / T Bili:94/13.3, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.3
   g/dL, LDH:293 IU/L, Ca++:9.1 mg/dL, Mg++:3.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   58 yo female with cryptogenic cirrhosis admitted with GI bleed in the
   setting of cirrhosis, E.coli sepsis, respiratory failure in setting of
   large volume resusitation
   1) Sepsis - Cont Zosyn (Day [**4-9**])- D/C vanc.  Afebrile with normal WBC
   2) Respiratory Failure -  Large effusions/volume overload are main
   barrier to extubation.  Will start Lasix gtt - need to follow
   electrolytes closely
   3)GI Bleed: Hct stable since yesterday.  Cont to Guiaiac stools.  [**Month (only) 51**]
   need revaluation of vaices.
   4) Renal failure:  Restarting attempts at diuresis as this is main
   barrier to extubation.
   5) Diminished mental status: Mental status much improved overall.
   6) Liver Failure: Cont lactulose, rifaximin.  T bili continues to rise.
   Remnainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2126-10-12 07:17:00 Physician Resident Progress Note
Chief Complaint: 10.15
   - no documentation of r/o Wilson's --> sent for 24 hr urine copper
   - if UOP not negative, trial of Lasix drip tomorrow
   - no growth from periotoneal cultures
   - Hepatology - ? variceal bleed
   - ID: if BCx neg d/c vanco, if Cdiff neg d/c flagyl, cont Zosyn,
   followed by ppx with Cipro 750mg qweek
   [**10-11**]
   - Lasix gtt started with goal UOP 100, however at 6mg/hr, Cr increased
   to 1.2, restarted Albumin and decreased Lasix
   - Liver: no scope now because no apparent active bleeding
   - Urine copper pending
   - Coombs pending . . .
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2126-10-9**] 06:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2126-10-10**] 05:46 PM
   Vancomycin - [**2126-10-11**] 08:00 AM
   Piperacillin - [**2126-10-11**] 10:00 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2126-10-11**] 02:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-12**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.5
C (97.7
   HR: 85 (76 - 87) bpm
   BP: 135/59(75) {117/52(69) - 147/76(82)} mmHg
   RR: 27 (20 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 98.4 kg
   Height: 63 Inch
           Total In:
                                                                  2,525 mL
                                                                    844 mL
   PO:
           TF:
                                                                    960 mL
                                                                    259 mL
   IVF:
                                                                    345 mL
                                                                     85 mL
   Blood products:
                                                                    400 mL
                                                                    200 mL
   Total out:
                                                                  1,900 mL
                                                                    430 mL
   Urine:
                                                                  1,600 mL
                                                                    430 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    625 mL
                                                                    414 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 148
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 23.7 cmH2O/mL
   SpO2: 97%
   ABG: ///28/
   Ve: 12.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   70 K/uL
   7.3 g/dL
   101 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.8 mEq/L
   85 mg/dL
   109 mEq/L
   150 mEq/L
   21.6 %
   9.2 K/uL
        [image002.jpg]
                            [**2126-10-8**]  09:25 PM
                            [**2126-10-9**]  04:05 AM
                            [**2126-10-9**]  12:04 PM
                            [**2126-10-9**]  08:28 PM
                            [**2126-10-10**]  03:21 AM
                            [**2126-10-10**]  03:21 PM
                            [**2126-10-11**]  03:55 AM
                            [**2126-10-11**]  08:43 PM
                            [**2126-10-12**]  12:46 AM
                            [**2126-10-12**]  04:27 AM
   WBC
   12.2
   7.6
   7.7
   9.1
   9.2
   Hct
   27.9
   26.2
   22.3
   22.4
   22.9
   22.8
   21.6
   Plt
   65
   54
   58
   63
   62
   70
   Cr
   1.3
   1.3
   1.2
   1.0
   1.3
   1.0
   1.2
   1.0
   1.0
   Glucose
   99
   107
   87
   92
   96
   100
   101
   Other labs: PT / PTT / INR:41.4/55.9/4.4, CK / CKMB / Troponin-T:59//,
   ALT / AST:42/122, Alk Phos / T Bili:82/15.2, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.3
   g/dL, LDH:293 IU/L, Ca++:9.6 mg/dL, Mg++:3.9 mg/dL, PO4:3.0 mg/dL
   Imaging: [**10-11**] Cardiac silhouette is enlarged. Bilateral pleural
   effusions, right
   greater than left and associated atelectasis at the lung bases. There
   is also
   CHF with interstitial edema. ET tube tip lies 2.1 cm above the carina.
   Right
   IJ sheath lies in the SVC. NG tube tip is below the diaphragm.
   Microbiology: all repeat cultures (-)
   E. coli BCxs ([**9-30**]) +
   Ascites fluid:
   WBCs 298 RBCs 498 polys 83%
   Assessment and Plan
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices
   initially presended with bloody diarrhea and fevers, developed apparent
   septic shock from E Coli bacteremia and respiratory failure.
   # Sepsis
 Pt with stable WBC, afebrile.   Likely SPB given
   paracentesis with ANC 247, Gram stain negative, culture negative
   currently, Abx: zosyn day 5.  Stool cultures negative for c. diff,
   blood and urine pending.  All other cultures to date including stool
   studies negative. Cholangitis unlikely given negative u/s and CT
   ([**10-7**]).  Clinical improvement, off pressors.
   - ID: , cont Zosyn on day 5 to complete 7 day course, ppx with Cipro
   750mg qweek lifelong.
   - F/u repeat cxs
   .
   # Respiratory Failure:  Likely secondary to underlying congestive heart
   failure.  Maintaining saturations at FiO2 40% and PEEP of 5 despite
   congestion and secretions.  Is +25 L.
   - Continue to wean ventilator settings: attempt to transition to
   pressure support.
   - Diuresis goal: 100 cc/hr of urine:  increase lasix to 10 cc/hr now
   regardless of Creatinine: follow Is and Os; if not responsive, increase
   lasix further to max of 15/hr.  Can give one-time diuril.  If not at
   goal of -2 L today, consult renal tomorrow re: possibility of CVVH.
   .
   # Decreased Hct- trending down now stable, trace heme positive with h/o
   varices, Differential: hemolysis vs GI bleed.   Hemolysis less likely
   given absence of schistocytes on smear.  GI Bleed more likely given
   trace + guiaic; sources could include known hx of esophageal varices
   (2+ on EGD from [**2124**]), portal gastropathy, ulcer disease, AVMs.  B/c
   not fast bleed and no frank blood, diverticula less likely.
   - HCTs [**Hospital1 7**]
   -Guiaic all stools
   -Active type and screen
   -If acute drop in HCT, call GI for possible endoscopy.
   -Follow up Coomb's test
   #  Oliguria:  UOP 55cc/hr  improved with [**Hospital1 7**] albumin, Cr stable at 1.0,
   BUN remains elevated
   - Continue albumin and monitoring of UOP
   - Continue Lasix gtt with UOP goal 100 cc/hr (between 2-15 cc/hr of
   lasix) (on home Lasix dose 120, 80)
   - PM lytes
   #Hypernatremia
   -Increase free water flushes 200 ml q4
   -Check PM sodium
   # Hypertension - BPs were stable; no IV labetolol needed
   - Labetolol 100mg [**Hospital1 7**] PO
   - Give labetalol PRN SBP > 160
   # Coagulopathy -  Thrombocytopenia likely [**1-28**] cirrhosis, plts stable in
   30s to 60s.  INR stable s/p Vitamin K and FFP for procedure 2d ago.
   -Can check daily coags, platelets
   #  Cryptogenic cirrhosis: LFTs increasing, TBili rising, MELD
   recalculated to 30. Has had o/p workup prior to admission, but no
   testing for Wilsons disease.  Has had negative RUQ u/s for obstruction
   - F/u 24hr Urine copper
   - Holding home nadolol and spirinolactone
   - Follow Liver recs
   # FEN:  Started on TF four days ago.  Repleting electrolytes as
   necessary.   Holding on giving fluids given congestion.
   # Access: L IJ
   #  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   #  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-11**] 10:12 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-13 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -attempting diuresis w/ increased lasix for UOP > 100 cc/hr, running at
   12cc /hr, also got 500 mg IV diuril X 2, creatinine improved from 1.0
   -> 0.6 -> 1.0; in PM the evening Is and Os were -400 mL negative; was
   making about 200 cc/urine in response
   -free water flushes were increased from 100 mL q4 -> 200 mL q4 and Na
   held steady at 150 even w/ the increased lasix
   -PM Hcts were 23.9 -> 25
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2126-10-10**] 05:46 PM
   Vancomycin - [**2126-10-11**] 08:00 AM
   Piperacillin - [**2126-10-13**] 01:04 AM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2126-10-12**] 12:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-13**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 77 (75 - 87) bpm
   BP: 151/72(90) {125/58(74) - 160/74(92)} mmHg
   RR: 24 (23 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 98.4 kg
   Height: 63 Inch
           Total In:
                                                                  2,819 mL
                                                                    830 mL
   PO:
           TF:
                                                                    720 mL
                                                                    125 mL
   IVF:
                                                                    594 mL
                                                                    225 mL
   Blood products:
                                                                    625 mL
                                                                    200 mL
   Total out:
                                                                  3,230 mL
                                                                  1,760 mL
   Urine:
                                                                  3,230 mL
                                                                  1,760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -411 mL
                                                                   -930 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 95%
   ABG: ///27/
   Ve: 12.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   87 K/uL
   8.0 g/dL
   95 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.9 mEq/L
   82 mg/dL
   109 mEq/L
   151 mEq/L
   23.3 %
   9.7 K/uL
        [image002.jpg]
                            [**2126-10-10**]  03:21 AM
                            [**2126-10-10**]  03:21 PM
                            [**2126-10-11**]  03:55 AM
                            [**2126-10-11**]  08:43 PM
                            [**2126-10-12**]  12:46 AM
                            [**2126-10-12**]  04:27 AM
                            [**2126-10-12**]  04:24 PM
                            [**2126-10-12**]  08:34 PM
                            [**2126-10-13**]  12:29 AM
                            [**2126-10-13**]  04:15 AM
   WBC
   7.7
   9.1
   9.2
   9.2
   9.7
   Hct
   22.4
   22.9
   22.8
   21.6
   23.9
   25.1
   23.3
   Plt
   58
   63
   62
   70
   76
   87
   Cr
   1.0
   1.3
   1.0
   1.2
   1.0
   1.0
   0.6
   1.0
   1.0
   Glucose
   87
   92
   96
   100
   101
   96
   94
   95
   Other labs: PT / PTT / INR:41.4/55.9/4.4, CK / CKMB / Troponin-T:59//,
   ALT / AST:42/122, Alk Phos / T Bili:82/15.2, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.3
   g/dL, LDH:293 IU/L, Ca++:10.1 mg/dL, Mg++:3.6 mg/dL, PO4:3.3 mg/dL
   Imaging: [**10-11**] FINDINGS: Cardiac silhouette is enlarged. Bilateral
   pleural effusions, right greater than left and associated atelectasis
   at the lung bases. There is also CHF with interstitial edema. ET tube
   tip lies 2.1 cm above the carina. Right IJ sheath lies in the SVC. NG
   tube tip is below the diaphragm.
   CONCLUSION: No significant change from yesterday's examination.
   Microbiology: E. coli in blood
   Ascitic fluid + SBP
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices
   initially presended with bloody diarrhea and fevers, developed apparent
   septic shock from E Coli bacteremia and respiratory failure.
   # Sepsis
 Pt with stable WBC, afebrile.   Likely SPB given
   paracentesis with ANC 247, Gram stain negative, culture negative
   currently, Abx: zosyn day 5.  Stool cultures negative for c. diff,
   blood and urine pending.  All other cultures to date including stool
   studies negative. Cholangitis unlikely given negative u/s and CT
   ([**10-7**]).  Clinical improvement, off pressors.
   - ID: , cont Zosyn on day 6 to complete 7 day course, then ppx with
   Cipro 750mg qweek lifelong.
   - F/u repeat cxs
   .
   # Respiratory Failure:  Likely secondary to underlying congestive heart
   failure.  Maintaining saturations at FiO2 40% and PEEP of 8 despite
   congestion and secretions.  Is +24 L.    Barrier to extubation:
   pulmonary edema.
   -Continue to wean ventilator settings: attempt to decrease PEEP to 5.
   -Diuresis: was about 500 mL negative w/ lasix at 12 mg/hr (120 mg) and
   diuril X 2.  Creatinine holding steady this AM at 1.0.  Can push up
   lasix to 15 cc/hr and give diuril [**Hospital1 7**] as well as albumin 25 mg [**Hospital1 7**];
   check lytes and Cr [**Hospital1 7**] and follow urine output with goal of -2 L
   today.
   .
   # Decreased Hct- trending down now stable, trace heme positive with h/o
   varices, Differential: hemolysis vs GI bleed.   Hemolysis less likely
   given absence of schistocytes on smear.  GI Bleed more likely given
   trace + guiaic; sources could include known hx of esophageal varices
   (2+ on EGD from [**2124**]), portal gastropathy, ulcer disease, AVMs.  B/c
   not fast bleed and no frank blood, diverticula less likely.
   - HCTs [**Hospital1 7**]
   -Guiaic all stools
   -Active type and screen
   -If acute drop in HCT, call GI for possible endoscopy.
   -Follow up Coomb's test
   #Hypernatremia
   -Currently getting free water flushes 200 q4.  Check PM lytes.  Give
   free water if necessary for Na > 150.
   # Hypertension - BPs were stable 130-150 systolic
   - Labetolol 100mg [**Hospital1 7**] PO
   - Give labetalol PRN SBP > 160
   # Coagulopathy -  Platelets, coags stable.
   -Can check daily coags, platelets
   #  Cryptogenic cirrhosis: LFTs increasing, TBili rising, MELD
   recalculated to 30. Has had o/p workup prior to admission, but no
   testing for Wilsons disease.  Has had negative RUQ u/s for obstruction
   - F/u 24hr Urine copper
   -Restart home nadolol
   -Continue to hold spirinolactone
   - Follow Liver recs
   # FEN:  Started on TF six days ago.  Repleting electrolytes as
   necessary.   Decreased TF volume yesterday.  Holding on giving fluids
   given congestion although may need to give free water for Na > 150.
   # Access: L IJ
   #  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   #  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-12**] 11:12 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-14 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - [**10-18**] is last day of antibiotics for ecoli bacteremia
   - aggressive diuresis, reached -3L by MN
   - increased free water boluses to 200 q 4
   - attempted to switch to pressure support today
   - TF increased to full
   - continuing labetolol for hypertension/variceal control
   - Switched to PSV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-10-11**] 08:00 AM
   Piperacillin - [**2126-10-14**] 01:02 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-14**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 75 (75 - 84) bpm
   BP: 139/69(85) {113/54(71) - 150/78(95)} mmHg
   RR: 24 (21 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.2 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,816 mL
                                                                    962 mL
   PO:
             TF:
                                                                    720 mL
                                                                    265 mL
   IVF:
                                                                    686 mL
                                                                    216 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  6,260 mL
                                                                  1,430 mL
   Urine:
                                                                  5,760 mL
                                                                  1,430 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -3,444 mL
                                                                   -468 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 506 (289 - 506) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 13.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   99 K/uL
   8.3 g/dL
   105 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.9 mEq/L
   81 mg/dL
   110 mEq/L
   150 mEq/L
   24.8 %
   8.9 K/uL
        [image002.jpg]
                            [**2126-10-11**]  08:43 PM
                            [**2126-10-12**]  12:46 AM
                            [**2126-10-12**]  04:27 AM
                            [**2126-10-12**]  04:24 PM
                            [**2126-10-12**]  08:34 PM
                            [**2126-10-13**]  12:29 AM
                            [**2126-10-13**]  04:15 AM
                            [**2126-10-13**]  09:55 AM
                            [**2126-10-13**]  04:04 PM
                            [**2126-10-14**]  03:27 AM
   WBC
   9.2
   9.2
   9.7
   8.9
   Hct
   21.6
   23.9
   25.1
   23.3
   24.8
   Plt
   70
   76
   87
   99
   Cr
   1.2
   1.0
   1.0
   0.6
   1.0
   1.0
   1.3
   1.2
   1.0
   Glucose
   100
   101
   96
   94
   95
   96
   106
   105
   Other labs: PT / PTT / INR:46.0/61.5/5.0, CK / CKMB / Troponin-T:59//,
   ALT / AST:53/147, Alk Phos / T Bili:81/20.6, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0
   g/dL, LDH:355 IU/L, Ca++:10.5 mg/dL, Mg++:3.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices
   initially presended with bloody diarrhea and fevers, developed apparent
   septic shock from E Coli bacteremia and respiratory failure.
   # Sepsis
 Resolving:  afebrile, stable WBC, resolved mental status, no
   pressor requirement for several days.  Likely source of sepsis:  E Coli
   bacteremia w/probable translocation of gut.  Also has SBP.       Likely
   SPB given paracentesis with ANC 247, Gram stain negative, culture
   negative currently, Abx: zosyn day 5.  Stool cultures negative for c.
   diff, blood and urine pending.  All other cultures to date including
   stool studies negative. Cholangitis unlikely given negative u/s and CT
   ([**10-7**]).  Clinical improvement, off pressors.
   - Last day of zosyn today to cover SBP but still needs to finish course
   for E Coli bacteremia:  switch to ceftriaxone tomorrow and continue
   until [**10-18**].  Also start ppx with Cipro 750mg qweek lifelong.
   - F/u repeat cxs
   .
   # Respiratory Failure:  Since midnight, has been on pressure support,
   maintaining good saturations at FiO2 40% and PEEP of 8. RSBI 58.
   Barrier to extubation: pulmonary edema (is 21 L positive).
   -Diuresis: was 3.5 L negative w/ lasix at 12 mg/hr (120 mg) and
   switched to 10 mg / hr O/N and recevied diuril X [**Hospital1 7**].  Creatinine
   yesterday AM was 1.3 and with continued diuresis, improved to 1.0 this
   AM.  Would continue lasix 10 cc/hr and continue diuril [**Hospital1 7**]; check lytes
   and Cr [**Hospital1 7**] and follow urine output with goal of -2 L.
   -This afternoon, wean PEEP down to 5 as tolerated.  Once doing well on
   PEEP of 5, can consider SBT.
   .
   #Hypernatremia - Likely secondary to diuresis.  Na rebounding up to 150
   despite free water flushes.
   -Would increase from 200 q4 to 250 q4.  Check PM lytes.  Give one-time
   free water bolus if necessary for Na > 150.
   .
   # Coagulopathy:  INR has increased from 2.4 to 5.0 over last five
   days.  PTT has also been increasing from 46 to 61.  Differential
   includes Vit K deficiency secondary to initiation of Zosyn course
   versus worsening hepatic function.  Vit K deficiency less likely since
   this should not affect PTT significantly, and pt has been receiving
   Vitamin K 10 mg PO over last three days.  Worsening of hepatic function
   supported by rising total bilirubin from 10 -> 20 over last five days.
   Causes of worsening hepatic function could be secondary to hepatic
   congestion given significant volume overload.  Recent US on [**10-8**]
   showed no obstruction and alk phos stable.
   -Continue Vit K 10 mg today and finish 3 day course tomorrow
   -Continue diuresis to reduce hepatic congestion
   -Touch base w/ liver whether they want further work-up, i.e. repeat of
   US.
   .
   # Hypertension - BPs were stable 130-150 systolic
   - Labetolol 100mg [**Hospital1 7**] PO
   - Give labetalol PRN SBP > 160
   .
   #  Cryptogenic cirrhosis: LFTs increasing, TBili rising, MELD
   recalculated to 30. Has had o/p workup prior to admission, but no
   testing for Wilsons disease.  Has had negative RUQ u/s for obstruction
   -Continue labetalol for HTN and variceal prophylaxis
   -Continue to hold spirinolactone given diuresis
   -F/u 24 hr copper
   -Follow Liver recs
   .
   # FEN:  On full tube feeds.  Electrolytes [**Hospital1 7**].  Free water flushes
   increased; can give D5W bolus if Na > 150.
   # Access: L IJ
   #  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   #  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-14**] 12:12 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-14 10:33:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   On PSV 12/5 and tolerating well
   24 Hour Events:
   Tolerated 3.5L of diuresis yesterday and 1L so far today
   History obtained from Medical records, icu team
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2126-10-14**] 01:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-10-14**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 76 (68 - 84) bpm
   BP: 130/55(73) {113/50(69) - 150/73(90)} mmHg
   RR: 23 (19 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.2 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  2,816 mL
                                                                  1,395 mL
   PO:
             TF:
                                                                    720 mL
                                                                    411 mL
   IVF:
                                                                    686 mL
                                                                    224 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  6,260 mL
                                                                  2,475 mL
   Urine:
                                                                  5,760 mL
                                                                  2,475 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -3,444 mL
                                                                 -1,080 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 473 (432 - 506) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 11.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   99 K/uL
   105 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.9 mEq/L
   81 mg/dL
   110 mEq/L
   150 mEq/L
   24.8 %
   8.9 K/uL
        [image002.jpg]
                            [**2126-10-11**]  08:43 PM
                            [**2126-10-12**]  12:46 AM
                            [**2126-10-12**]  04:27 AM
                            [**2126-10-12**]  04:24 PM
                            [**2126-10-12**]  08:34 PM
                            [**2126-10-13**]  12:29 AM
                            [**2126-10-13**]  04:15 AM
                            [**2126-10-13**]  09:55 AM
                            [**2126-10-13**]  04:04 PM
                            [**2126-10-14**]  03:27 AM
   WBC
   9.2
   9.2
   9.7
   8.9
   Hct
   21.6
   23.9
   25.1
   23.3
   24.8
   Plt
   70
   76
   87
   99
   Cr
   1.2
   1.0
   1.0
   0.6
   1.0
   1.0
   1.3
   1.2
   1.0
   Glucose
   100
   101
   96
   94
   95
   96
   106
   105
   Other labs: PT / PTT / INR:46.0/61.5/5.0, CK / CKMB / Troponin-T:59//,
   ALT / AST:53/147, Alk Phos / T Bili:81/20.6, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0
   g/dL, LDH:355 IU/L, Ca++:10.5 mg/dL, Mg++:3.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   58 yo female with cryptogenic cirrhosis admitted with GI bleed in the
   setting of cirrhosis, E.coli sepsis, respiratory failure in setting of
   large volume resusitation
   1) Sepsis - Has completed Zosyn course after today's dose.  Will change
   abx to cipro for SBP ppx.
   2) Respiratory Failure - Tolerating PSV.  Main barrier to extubation is
   volume overload - continue to goal for at least 2L negative today
   3) GI Bleed: Hct stable
   4) Renal failure:  Cr stable - diurese as above.  Monirot electrolytes
   closely.  Increase fH20 for hypernatremia
   5) Liver Failure: T bili continues to rise
 could be [**1-28**] congestion.
   Cont to follow.
   Remnainder of issues per ICU team
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-14**] 12:12 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2126-10-15 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - improved UOP on lasix gtt
   - PM labs stable, Na 151
   - liver recs: transplant w/u? ask for specifics tomorrow
   - urine cultures negative
   - tolerating PSV all day
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2126-10-14**] 06:00 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-15**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 82 (68 - 85) bpm
   BP: 120/52(68) {109/46(61) - 141/67(86)} mmHg
   RR: 23 (19 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.2 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  3,340 mL
                                                                    894 mL
   PO:
             TF:
                                                                    960 mL
                                                                    267 mL
   IVF:
                                                                    590 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  6,505 mL
                                                                  1,665 mL
   Urine:
                                                                  5,565 mL
                                                                  1,665 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
                                                                     40 mL
   Balance:
                                                                 -3,165 mL
                                                                   -771 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 460 (413 - 502) mL
   PS : 12 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 11.3 L/min
   Physical Examination
   Cardiovascular: Gen: NAD
   CV: RRR
   Lungs: CTAB
   Abd: soft, ND ABS
   Ext: 2+ edema bilaterally
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   8.4 g/dL
   104 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.8 mEq/L
   75 mg/dL
   109 mEq/L
   149 mEq/L
   25.1 %
   7.2 K/uL
        [image002.jpg]
                            [**2126-10-12**]  04:27 AM
                            [**2126-10-12**]  04:24 PM
                            [**2126-10-12**]  08:34 PM
                            [**2126-10-13**]  12:29 AM
                            [**2126-10-13**]  04:15 AM
                            [**2126-10-13**]  09:55 AM
                            [**2126-10-13**]  04:04 PM
                            [**2126-10-14**]  03:27 AM
                            [**2126-10-14**]  03:04 PM
                            [**2126-10-15**]  03:19 AM
   WBC
   9.2
   9.2
   9.7
   8.9
   7.2
   Hct
   21.6
   23.9
   25.1
   23.3
   24.8
   25.1
   Plt
   70
   76
   87
   99
   105
   Cr
   1.0
   0.6
   1.0
   1.0
   1.3
   1.2
   1.0
   0.6
   0.6
   Glucose
   101
   96
   94
   95
   96
   106
   105
   117
   104
   Other labs: PT / PTT / INR:47.9/61.1/5.2, CK / CKMB / Troponin-T:59//,
   ALT / AST:53/147, Alk Phos / T Bili:81/20.6, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0
   g/dL, LDH:355 IU/L, Ca++:10.4 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR - bilateral effusions, diffuse pulmonary edema
   Microbiology: no new micro
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices
   initially presended with bloody diarrhea and fevers, developed apparent
   septic shock from E Coli bacteremia and respiratory failure.
   # Sepsis
 Resolving:  afebrile, WBC down, not tachycardic.  pCO2=35
   but RR>20.  Respiratory status more likely a cause of pulmonary edema.
   Continue to treat her inital E Coli bacteremia w/probable translocation
   of colonic bacteria.  Course was further c/b SPB, now treated X 5
   days.  cholangitis r/o by abdominal u/s
   - Stop Zosyn, and start ceftriaxone until [**10-18**].
   - after which she will require SBP ppx with Cipro 750mg qweek lifelong.
   - F/u repeat cxs
   # Respiratory Failure:  Tolerating weaning to PS 12/5  FiO2 40% and
   PEEP of 8. RSBI 58.  Barrier to extubation: pulmonary edema (is 18 L
   positive).   3L negative.
   -Diuresis: Continue lasix ggt and diuril [**Hospital1 7**]; check lytes and Cr [**Hospital1 7**]
   and follow urine output with goal of -2 L.
   - Continue to wean pressure support ventilation today.  Based on CXR,
   she may not tolerate extubation today.  .
   #Hypernatremia - Likely secondary to diuresis.  Na at 149 today.  3.8 L
   free water deficit.
   -Continue free water flushes at 250 q3.  Check PM lytes.  Give one-time
   free water bolus if necessary for Na > 150.
   # Coagulopathy:  INR has increased from 2.4 to 5.2 over last five
   days.  PTT has also been increasing from 46 to 61.  Worsening of
   hepatic function supported by rising total bilirubin, perhaps from
   hepatic congestion given significatn volume overload.  Vit K deficiency
   in the setting of antibiotic treatment inhibiting Vit K production
   lless likely since this should not affect PTT significantly, and pt has
   received 3 day course of Vit K without improvement in INR.  Recent US
   on [**10-8**] showed no obstruction and alk phos stable.
   -Continue diuresis to reduce hepatic congestion
   -Touch base w/ liver about ? liver work up for transplant.
   # Hypertension - BPs were stable 130-150 systolic
   - Labetolol 100mg [**Hospital1 7**] PO
   - Give labetalol PRN SBP > 160
   #  Cryptogenic cirrhosis: LFTs increasing, TBili rising, MELD
   recalculated to 30. Has had o/p workup prior to admission, but no
   testing for Wilsons disease.  Has had negative RUQ u/s for obstruction
   -Continue labetalol for HTN and variceal prophylaxis
   -Continue to hold spirinolactone given diuresis
   -F/u 24 hr copper
   -Follow Liver recs
   # FEN:  On full tube feeds.  Electrolytes [**Hospital1 7**].  Free water flushes
   increased; can give D5W bolus if Na > 150.
   # Access: L IJ
   #  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   #  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-15**] 01:11 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-15 11:16:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints
   Continue to diurese
   24 Hour Events:
   3.1L negative yesterday
   History obtained from Medical records, icu team
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2126-10-15**] 10:00 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-10-15**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 78 (76 - 85) bpm
   BP: 81/62(66) {81/46(61) - 141/67(86)} mmHg
   RR: 23 (22 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.2 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  3,340 mL
                                                                  1,822 mL
   PO:
             TF:
                                                                    960 mL
                                                                    441 mL
   IVF:
                                                                    590 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                  6,505 mL
                                                                  2,335 mL
   Urine:
                                                                  5,565 mL
                                                                  2,335 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
                                                                     40 mL
   Balance:
                                                                 -3,165 mL
                                                                   -513 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 471 (413 - 502) mL
   PS : 12 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 11.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   105 K/uL
   104 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.8 mEq/L
   75 mg/dL
   109 mEq/L
   149 mEq/L
   25.1 %
   7.2 K/uL
        [image002.jpg]
                            [**2126-10-12**]  04:27 AM
                            [**2126-10-12**]  04:24 PM
                            [**2126-10-12**]  08:34 PM
                            [**2126-10-13**]  12:29 AM
                            [**2126-10-13**]  04:15 AM
                            [**2126-10-13**]  09:55 AM
                            [**2126-10-13**]  04:04 PM
                            [**2126-10-14**]  03:27 AM
                            [**2126-10-14**]  03:04 PM
                            [**2126-10-15**]  03:19 AM
   WBC
   9.2
   9.2
   9.7
   8.9
   7.2
   Hct
   21.6
   23.9
   25.1
   23.3
   24.8
   25.1
   Plt
   70
   76
   87
   99
   105
   Cr
   1.0
   0.6
   1.0
   1.0
   1.3
   1.2
   1.0
   0.6
   0.6
   Glucose
   101
   96
   94
   95
   96
   106
   105
   117
   104
   Other labs: PT / PTT / INR:47.9/61.1/5.2, CK / CKMB / Troponin-T:59//,
   ALT / AST:53/147, Alk Phos / T Bili:81/20.6, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.0
   g/dL, LDH:355 IU/L, Ca++:10.4 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   58 yo female with cryptogenic cirrhosis admitted with GI bleed in the
   setting of cirrhosis, E.coli sepsis, respiratory failure in setting of
   large volume resusitation
   1) Sepsis - Switch Zosyn back to CTX and will complete course through
   [**10-18**].
   2) Respiratory Failure - Getting closer to extubation with ongoing
   diuresis.  SBT today - potentially extubation today but more likely
   tomorrow or next day.  Continue efforts at diuresis
   3) GI Bleed: Hct stable
   4) Renal failure:  fH20
   5) Liver Failure: T bili now greater than 20.  Hepatology following.
   Presumptively due to congestion.
   Remnainder of issues per ICU team
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-15**] 01:11 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2126-10-16 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -tolerating PSV all day but did not advance to SBT b/c of secretions;
   will attempt spontaneous breathing trial tomorrow AM
   -liver feels that rise in tbili secondary to worsening of liver
   failure: want aggressive w/u for possibliity of liver transplant: sent
   out for hep, HIV, HSV, VZV, rubella serologies, cardiac echo ordered
   for tomorrow, EKG ordered for tomorrow. LFTS from this morning do not
   show sig change compared to yesterday.
   -evening sodium and creatinine:  sodium at 145, creatinine improved to
   0.9
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2126-10-15**] 10:00 AM
   Ceftriaxone - [**2126-10-15**] 12:00 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-16**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.7
   HR: 79 (75 - 84) bpm
   BP: 133/55(72) {81/45(62) - 146/78(82)} mmHg
   RR: 25 (23 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.8 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  3,610 mL
                                                                    739 mL
   PO:
             TF:
                                                                    960 mL
                                                                     87 mL
   IVF:
                                                                    440 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  4,875 mL
                                                                  1,620 mL
   Urine:
                                                                  4,875 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,265 mL
                                                                   -881 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 321 (321 - 471) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 8.8 L/min
   Physical Examination
   Cardiovascular: Gen: NAD
   CV: RRR. S1 and S2
   Lungs: CTAB
   Abd: soft, ND, NT ABS
   Ext: 2+ edema bilaterally
   Labs / Radiology
   111 K/uL
   8.8 g/dL
   128
   1.0 mg/dL
   29 mEq/L
   3.7 mEq/L
   69 mg/dL
   109 mEq/L
   147 mEq/L
   26.7 %
   8.0 K/uL
        [image002.jpg]
                            [**2126-10-13**]  04:15 AM
                            [**2126-10-13**]  09:55 AM
                            [**2126-10-13**]  04:04 PM
                            [**2126-10-14**]  03:27 AM
                            [**2126-10-14**]  03:04 PM
                            [**2126-10-15**]  03:19 AM
                            [**2126-10-15**]  08:00 PM
                            [**2126-10-15**]  10:00 PM
                            [**2126-10-16**]  02:31 AM
                            [**2126-10-16**]  04:00 AM
   WBC
   9.7
   8.9
   7.2
   8.0
   Hct
   23.3
   24.8
   25.1
   26.7
   Plt
   87
   99
   105
   111
   Cr
   1.0
   1.3
   1.2
   1.0
   0.6
   0.6
   0.9
   1.0
   Glucose
   95
   96
   106
   105
   117
   104
   108
   129
   116
   128
   Other labs: PT / PTT / INR:42.8/61.8/4.5, ALT / AST:81/225, Alk Phos /
   T Bili:104/23.7, Ca++:10.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR: R pleural effusion, pulmonary edema
   Microbiology: no new micro
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices
   initially presended with bloody diarrhea and fevers, developed apparent
   septic shock from E Coli bacteremia and respiratory failure.
   # Respiratory Failure:  Tolerating weaning to PS 12/5  FiO2 40% and
   PEEP of 8. RSBI 58.  Barrier to extubation: volume overload (is 16 L
   positive).
   -Diuresis: Continue lasix ggt and diuril [**Hospital1 7**]; check lytes and Cr [**Hospital1 7**]
   and follow urine output with goal of -2 L.
   - SBT trial today
    # Sepsis
 Resolved:  afebrile, WBC down, not tachycardic.  pCO2=35
   but RR>20.  Respiratory status more likely a cause of pulmonary edema.
   Continue to treat her inital E Coli bacteremia w/probable translocation
   of colonic bacteria.  Course was further c/b SPB, now treated X 5
   days.  cholangitis r/o by abdominal u/s
   - Continue ceftriaxone until [**10-18**].
   - after which she will require SBP ppx with Cipro 750mg qweek lifelong.
   - F/u repeat cxs
   #Hypernatremia - Likely secondary to diuresis.  Na at 147 today.
   -Continue free water flushes at 250 q3.  Check PM lytes.  Give one-time
   free water bolus if necessary for Na > 150.
   # Coagulopathy:  INR has increased from 2.4 to peak of 5.2.  PTT has
   also been increasing from 46 to 61.  Worsening of hepatic function
   supported by rising total bilirubin, perhaps from hepatic congestion
   given volume overload.   INR improving in the setting of receiving Vit
   K.  PTT still elevated.  Liver is following.  Also bleieve her hepatic
   function is worsening.  Started workup for transplant yesterday.
   Recent US on [**10-8**] showed no obstruction and alk phos stable.
   - Continue diuresis to reduce hepatic congestion
   - f/u liver recs
   # Hypertension - BPs were stable 130-150 systolic
   - Labetolol 100mg [**Hospital1 7**] PO
   - Give labetalol PRN SBP > 160
   # Cryptogenic cirrhosis: LFTs increasing, TBili rising, MELD
   recalculated to 30. Has had o/p workup prior to admission, but no
   testing for Wilsons disease.  Has had negative RUQ u/s for obstruction
   -Continue labetalol for HTN and variceal prophylaxis
   -Continue to hold spirinolactone given diuresis
   -F/u 24 hr copper
   -Follow Liver recs
   # FEN:  On full tube feeds.  Electrolytes [**Hospital1 7**].  Free water flushes.
   # Access: L IJ
   #  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   #  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-16 10:54:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated this AM - doing well this AM
   24 Hour Events:
   Additional 1.2L negative yesterday
   History obtained from Medical records, icu team
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2126-10-15**] 10:00 AM
   Ceftriaxone - [**2126-10-15**] 12:00 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-10-16**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.7
   HR: 75 (75 - 84) bpm
   BP: 135/63(80) {96/45(62) - 146/102(108)} mmHg
   RR: 30 (23 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.8 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  3,610 mL
                                                                    964 mL
   PO:
             TF:
                                                                    960 mL
                                                                    145 mL
   IVF:
                                                                    440 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                  4,875 mL
                                                                  3,200 mL
   Urine:
                                                                  4,875 mL
                                                                  2,325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,265 mL
                                                                 -2,236 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 313 (313 - 415) mL
   PS : 5 cmH2O
   RR (Spontaneous): 50
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 6 cmH2O
   SpO2: 93%
   ABG: ///29/
   Ve: 5.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   111 K/uL
   128
   1.0 mg/dL
   29 mEq/L
   3.7 mEq/L
   69 mg/dL
   109 mEq/L
   147 mEq/L
   26.7 %
   8.0 K/uL
        [image002.jpg]
                            [**2126-10-13**]  04:15 AM
                            [**2126-10-13**]  09:55 AM
                            [**2126-10-13**]  04:04 PM
                            [**2126-10-14**]  03:27 AM
                            [**2126-10-14**]  03:04 PM
                            [**2126-10-15**]  03:19 AM
                            [**2126-10-15**]  08:00 PM
                            [**2126-10-15**]  10:00 PM
                            [**2126-10-16**]  02:31 AM
                            [**2126-10-16**]  04:00 AM
   WBC
   9.7
   8.9
   7.2
   8.0
   Hct
   23.3
   24.8
   25.1
   26.7
   Plt
   87
   99
   105
   111
   Cr
   1.0
   1.3
   1.2
   1.0
   0.6
   0.6
   0.9
   1.0
   Glucose
   95
   96
   106
   105
   117
   104
   108
   129
   116
   128
   Other labs: PT / PTT / INR:42.8/61.8/4.5, CK / CKMB / Troponin-T:59//,
   ALT / AST:81/225, Alk Phos / T Bili:104/23.7, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.5
   g/dL, LDH:355 IU/L, Ca++:10.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   58 yo female with cryptogenic cirrhosis admitted with GI bleed in the
   setting of cirrhosis, E.coli sepsis, respiratory failure in setting of
   large volume resusitation
   1) Sepsis - CTX through [**10-18**].
   2) Respiratory Failure
 Now extubated and doing well
 will cont to
   monitor closely
   3) GI Bleed: Hct stable
   4) Renal failure:  Cr bumped with ongoing diuresis.  D/C Diuril.
   5) Liver Failure: T bili rising.  Getting transplant workup initiated
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-16**] 09:20 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2126-10-17 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -extubated
   -PT/OT eval
   -Speech and swallow eval - okay to trial of pureed foods.
   -developed bleeding around the foley, but no blood in urine.  Not able
   to exclude vaginal bleeding, but it blood was more anterior than
   posterior, more obvious when she was cleaned by the nurse.
   -lasix drip d/c'd given large volumes of urine.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2126-10-15**] 10:00 AM
   Ceftriaxone - [**2126-10-16**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-17**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 80 (70 - 82) bpm
   BP: 121/47(65) {111/46(61) - 141/102(108)} mmHg
   RR: 21 (19 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.8 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  3,033 mL
                                                                    747 mL
   PO:
                                                                    360 mL
             TF:
                                                                    673 mL
                                                                     81 mL
   IVF:
                                                                    440 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  5,710 mL
                                                                    360 mL
   Urine:
                                                                  4,835 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,677 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 313 (313 - 415) mL
   PS : 5 cmH2O
   RR (Spontaneous): 50
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 5.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   114 K/uL
   9.2 g/dL
   110 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.6 mEq/L
   61 mg/dL
   108 mEq/L
   144 mEq/L
   26.9 %
   7.8 K/uL
        [image002.jpg]
                            [**2126-10-13**]  04:04 PM
                            [**2126-10-14**]  03:27 AM
                            [**2126-10-14**]  03:04 PM
                            [**2126-10-15**]  03:19 AM
                            [**2126-10-15**]  08:00 PM
                            [**2126-10-15**]  10:00 PM
                            [**2126-10-16**]  02:31 AM
                            [**2126-10-16**]  04:00 AM
                            [**2126-10-16**]  06:28 PM
                            [**2126-10-17**]  02:34 AM
   WBC
   8.9
   7.2
   8.0
   7.8
   Hct
   24.8
   25.1
   26.7
   26.9
   Plt
   99
   105
   111
   114
   Cr
   1.2
   1.0
   0.6
   0.6
   0.9
   1.0
   0.9
   0.7
   Glucose
   106
   105
   117
   104
   108
   129
   116
   128
   152
   110
   Other labs: PT / PTT / INR:42.8/58.9/4.5, CK / CKMB / Troponin-T:59//,
   ALT / AST:94/246, Alk Phos / T Bili:105/24.8, Amylase / Lipase:45/14,
   Differential-Neuts:72.0 %, Band:1.0 %, Lymph:6.0 %, Mono:13.0 %,
   Eos:2.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.5
   g/dL, LDH:355 IU/L, Ca++:10.3 mg/dL, Mg++:2.4 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: [**10-8**]: 902 PM
    35  81  7.54
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices
   initially presended with bloody diarrhea and fevers, developed apparent
   septic shock from E Coli bacteremia and respiratory failure now s/p
   extubation.
   .
    # Sepsis
 Resolved:  afebrile, WBC down, not tachycardic.  pCO2=35
   but RR>20.  Respiratory status more likely a cause of pulmonary edema.
   Continue to treat her inital E Coli bacteremia w/probable translocation
   of colonic bacteria.  Course was further c/b SPB, now treated X 5
   days.  cholangitis r/o by abdominal u/s
   - Tomorrow is the last day of ceftriaxone ([**10-18**] for E. Coli
   bacteremia)
   - after which she will require SBP ppx with Cipro 750mg qweek lifelong.
   - F/u repeat cxs
   .
   #Hypercalcemia:  Calcium is 10.3, has been between 10 - 10.6 over last
   several days, most likely secondary to thiazide diuretic, which was
   discontinued last night.
   -Daily calcium, should resolve spontaneously after discontinuation of
   thiazide.
   .
   # Coagulopathy:  INR stable at 4.5; PTT stable at 60.   Was bleeding
   overnight from around foley site, foley was pulled and is no longer
   bleeding currently.
   -2 units FFP
   -Continue vitamin K
   - f/u liver recs
   .
   # Hypertension - BPs were stable 130-150 systolic
   - Restart home doses of furosemide 120 mg qam, 80 mg qpm
   - Restart spirinolactone 100 mg daily
   - Continue labetalol for now; if BPs continue to be well controlled
   with home lasix and spirinolactone, can transition to nadolol tomorrow
   .
   # Cryptogenic cirrhosis: LFTs, t bili, and coags have overall increased
   over the past week.  Unclear why hepatic function has worsened but
   differential includes obstruction, hepatic congestion, ischemic insult
   in setting of sepsis.
   -Repeat RUQ US  to r/o obstruction
   -Continue labetalol for HTN and variceal prophylaxis
   -F/u 24 hr copper
   -Follow serologies
   -Follow Liver recs
   .
   # FEN:  Trial of pureed foods, advance as tolerated.  Electrolytes
   [**Hospital1 7**].  Encourage PO water intake given previous hypernatremia.
   .
   # Access: L IJ
   .
   #  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   .
   #  Code Status: Full (confirmed with family)
   .
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-18 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 400cc rectal bleeding, some vaginal, hct stable, recheck q6hrs
   - INR 4.5 given 1U FFP, repeat coags, INR 3.5
   - NG lavage negative
   - liver: flex sig with polyps and internal hemorrhoids, no acute
   bleeding
   - Hct: 27->25->24-> stable
   -repeat US: no changes - continued moderate ascites, patent vessels
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2126-10-15**] 10:00 AM
   Ceftriaxone - [**2126-10-16**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-10-17**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-18**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 81 (73 - 85) bpm
   BP: 118/47(63) {104/45(59) - 131/97(103)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.8 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  1,399 mL
                                                                     71 mL
   PO:
             TF:
                                                                     81 mL
   IVF:
                                                                    350 mL
                                                                     71 mL
   Blood products:
                                                                    288 mL
   Total out:
                                                                  1,210 mL
                                                                    460 mL
   Urine:
                                                                  1,210 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    189 mL
                                                                   -389 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   107 K/uL
   7.8 g/dL
   61 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.9 mEq/L
   46 mg/dL
   112 mEq/L
   148 mEq/L
   23.9 %
   7.5 K/uL
        [image002.jpg]
                            [**2126-10-15**]  10:00 PM
                            [**2126-10-16**]  02:31 AM
                            [**2126-10-16**]  04:00 AM
                            [**2126-10-16**]  06:28 PM
                            [**2126-10-17**]  02:34 AM
                            [**2126-10-17**]  08:35 AM
                            [**2126-10-17**]  01:30 PM
                            [**2126-10-17**]  06:52 PM
                            [**2126-10-17**]  11:32 PM
                            [**2126-10-18**]  03:41 AM
   WBC
   8.0
   7.8
   7.4
   7.5
   Hct
   26.7
   26.9
   27.0
   25.1
   23.7
   24.0
   23.9
   Plt
   111
   114
   100
   107
   Cr
   1.0
   0.9
   0.7
   0.7
   Glucose
   129
   116
   128
   152
   110
   61
   Other labs: PT / PTT / INR:34.6/52.2/3.5, CK / CKMB / Troponin-T:59//,
   ALT / AST:94/246, Alk Phos / T Bili:105/24.8, Amylase / Lipase:45/14,
   Differential-Neuts:62.0 %, Band:0.0 %, Lymph:14.0 %, Mono:15.0 %,
   Eos:8.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.5
   g/dL, LDH:355 IU/L, Ca++:10.0 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Imaging: -repeat US: no changes - continued moderate ascites, patent
   vessels
   Assessment and Plan
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices
   initially presended with bloody diarrhea and fevers, developed apparent
   septic shock from E Coli bacteremia and respiratory failure now s/p
   extubation.
   .
   #Bleeding - Pt had about 400 ccs of bleeding yesterday from rectum and
   potentially had vaginal bleeding as well.  Total amount of blood ~ 400
   ccs.  Flex sigmoidoscopy yesterday showed nonbleeding hemorrhoids and
   polyps.  This AM had very small, melanotic stool, but otherwise no
   active bleeding. HCT currently stable at 24, last INR remains elevated
   at 3.5.      Possible sources for her bleed: given liver disease that
   has likely worsened over past week: esophageal varices (known), portal
   gastropathy, other varices (rectal), polyps; predilection for bleed in
   setting of coagulopathy.
   -Would check HCT q8 hrs today and transfuse if Hct < 21
   -F/u coags this AM
   -Restart home nadolol (instead of labetalol which was held yesterday in
   case of hypotension) as this will provide long-term prophylaxis against
   variceal bleed
   -Maintain active type and screen
   -Continue IV PPI
   -If continued active bleeding, transfuse additional unit of FFP.
   -Can D/c vitamin K today (has received 10 mg X 3 days)
   -F/u liver recs
   .
    # Sepsis
 Resolved:  afebrile, WBC down, not tachycardic.  pCO2=35
   but RR>20.  Respiratory status more likely a cause of pulmonary edema.
   Continue to treat her inital E Coli bacteremia w/probable translocation
   of colonic bacteria.  Course was further c/b SPB, now treated X 5
   days.  cholangitis r/o by abdominal u/s
   - Finished ceftriaxone course for E. Coli bacteremia today: D/c
   ceftriaxone.
   - Start SBP ppx with Cipro 750mg qweek lifelong.
   - F/u repeat cxs
   .
   #Hypercalcemia:  Calcium is 10.3, has been between 10 - 10.6 over last
   several days, most likely secondary to thiazide diuretic, which was
   discontinued two days ago, is resolving.
   -Follow daily calcium
   .
   # Hypertension - BPs were stable 110 - 130 systolic
   - Restart home doses of furosemide 120 mg qam, 80 mg qpm
   - Restarting nadolol today 40 mg daily
   - Hold spirinolactone for now; follow BPs, if tolerating, consider
   starting spirinolactone tomorrow
   .
   # Cryptogenic cirrhosis: LFTs, t bili, and coags have overall increased
   over the past week.  Unclear why hepatic function has worsened but
   differential includes obstruction, hepatic congestion, ischemic insult
   in setting of sepsis.
   -Repeat RUQ US negative
   -Continue nadolol for HTN and variceal prophylaxis
   -Restart furosemide
   -Follow serologies
   -F/u 24 hr urine copper
   -Follow Liver recs
   .
   # FEN:  On pureed foods, advance diet as tolerated.  Daily lytes.
   Encourage PO water intake given previous hypernatremia.
   .
   # Access: L IJ
   .
   #  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   .
   #  Code Status: Full (confirmed with family)
   .
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   20 Gauge - [**2126-10-17**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-19 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -HCTs during day stable at 23
   -repeated episodes of bleeding; FFP given, liver called; they rescoped
   her and found rectal varices with significant blood around them,
   unclear if actively bleeding but were injected. Oxycodone given for
   rectal pain
   -completed ceftriaxone course, which was D/C'd; cipro prophylaxis
   started
   -vaginal US not done
   -spirinolactone, lasix; nadolol not restarted in setting of active
   bleeding
   - transplat: requires mammogram and pap smear to complete transplant
   workup.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-16**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-19**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 93 (82 - 93) bpm
   BP: 126/53(71) {109/50(67) - 139/68(84)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.8 kg (admission): 98.4 kg
   Height: 63 Inch
           Total In:
                                                                  1,193 mL
                                                                    158 mL
   PO:
           TF:
   IVF:
                                                                    240 mL
                                                                     75 mL
   Blood products:
                                                                    953 mL
                                                                     83 mL
   Total out:
                                                                  1,270 mL
                                                                    320 mL
   Urine:
                                                                  1,270 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -77 mL
                                                                   -162 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Cardiovascular: Gen: NAD
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   95 K/uL
   8.5 g/dL
   107 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.3 mEq/L
   44 mg/dL
   111 mEq/L
   145 mEq/L
   24.9 %
   8.2 K/uL
        [image002.jpg]
                            [**2126-10-16**]  06:28 PM
                            [**2126-10-17**]  02:34 AM
                            [**2126-10-17**]  08:35 AM
                            [**2126-10-17**]  01:30 PM
                            [**2126-10-17**]  06:52 PM
                            [**2126-10-17**]  11:32 PM
                            [**2126-10-18**]  03:41 AM
                            [**2126-10-18**]  03:52 PM
                            [**2126-10-19**]  01:54 AM
                            [**2126-10-19**]  05:37 AM
   WBC
   7.8
   7.4
   7.5
   8.2
   Hct
   26.9
   27.0
   25.1
   23.7
   24.0
   23.9
   23.7
   25.5
   24.9
   Plt
   114
   100
   107
   95
   Cr
   0.9
   0.7
   0.7
   0.7
   Glucose
   152
   110
   61
   107
   Other labs: PT / PTT / INR:31.2/51.4/3.1, CK / CKMB / Troponin-T:59//,
   ALT / AST:97/242, Alk Phos / T Bili:71/23.8, Amylase / Lipase:45/14,
   Differential-Neuts:62.0 %, Band:0.0 %, Lymph:14.0 %, Mono:15.0 %,
   Eos:8.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.9
   g/dL, LDH:355 IU/L, Ca++:9.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR - unable to view
   Microbiology: no new micro
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices
   initially presended with bloody diarrhea and fevers, developed apparent
   septic shock from E Coli bacteremia and respiratory failure now s/p
   extubation.  Now with worsening liver failure, receiving tranplant
   workup and new onset rectal and vaginal bleeding.
   #Bleeding - Flex sigmoidoscopy yesterday showed rectal varices were
   injected.  No active bleeding. HCT currently stable.  Last INR remains
   elevated at 3.1.    Possible sources for her bleed: given liver disease
   that has likely worsened over past week: esophageal varices (known),
   portal gastropathy, other varices (rectal), polyps; predilection for
   bleed in setting of coagulopathy.
   -Would check HCT q8 hrs today and transfuse if Hct < 21
   -F/u coags this AM
   - Maintain active type and screen
   -Continue IV PPI
   -If continued active bleeding, transfuse additional unit of FFP.
   -F/u liver recs
   # Cryptogenic cirrhosis: LFTs, t bili, and coags have overall increased
   over the past week.  Unclear why hepatic function has worsened but
   differential includes obstruction, hepatic congestion, ischemic insult
   in setting of sepsis.  24 hr copper positive 80mcg/L. 100mcg is typical
   in pts with Wilsons.  While her's is borderline, not uncommon in pts
   with presymptomatic dz, she is very symptomatic.  24 hr sample entirely
   complete? Mild metabolic alkylosis at the time which may change the
   study result by causing copper precipitation and causing falsely low
   results.
   -hold nadolol, furosemide, and spironolactone in setting of recent
   bleed.
   -eye exam today, if positive  penicillimine
   - liver biopsy
   - tranplant workup requires mammography and pap smear
   -Follow serologies
   -Follow Liver recs
   # Hypertension - BPs were stable 110 - 130 systolic, in setting of held
   antihypertensives.  concerning and would hold all blood pressure
   lowering agents.
   - holding labetolol 100bid
   - restart home spirinolactone
    # Sepsis
 Continue to treat her inital E Coli bacteremia c/b SBP,
   treatment course complete.
   - F/u repeat cxs
   # FEN:  On pureed foods, advance diet as tolerated.  Daily lytes.
   Encourage PO water intake given previous hypernatremia.
   # Access: L IJ
   #  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   #  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   20 Gauge - [**2126-10-17**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-19 11:32:00 Physician Attending Progress Note
TITLE: Critical Care Staff Note
   Chief Complaint: Sepsis, GIB, cirrhosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   -cont oozing varices; liver called, repeated scope, injection of rectal
   varices
   -HCT stable at 23
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2126-10-16**] 12:00 PM
   Infusions:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-19**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 93 (82 - 95) bpm
   BP: 125/64(78) {116/50(67) - 139/64(79)} mmHg
   RR: 23 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.8 kg (admission): 98.4 kg
   Height: 63 Inch
           Total In:
                                                                  1,193 mL
                                                                    882 mL
   PO:
           320 mL
   TF:
           8 mL
   IVF:
                                                                    240 mL
                                                                    212 mL
   Blood products:
                                                                    953 mL
                                                                    342 mL
   Total out:
                                                                  1,270 mL
                                                                    610 mL
   Urine:
                                                                  1,270 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -77 mL
                                                                    272 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   95 K/uL
   107 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.3 mEq/L
   44 mg/dL
   111 mEq/L
   145 mEq/L
   24.9 %
   8.2 K/uL
        [image002.jpg]
                            [**2126-10-16**]  06:28 PM
                            [**2126-10-17**]  02:34 AM
                            [**2126-10-17**]  08:35 AM
                            [**2126-10-17**]  01:30 PM
                            [**2126-10-17**]  06:52 PM
                            [**2126-10-17**]  11:32 PM
                            [**2126-10-18**]  03:41 AM
                            [**2126-10-18**]  03:52 PM
                            [**2126-10-19**]  01:54 AM
                            [**2126-10-19**]  05:37 AM
   WBC
   7.8
   7.4
   7.5
   8.2
   Hct
   26.9
   27.0
   25.1
   23.7
   24.0
   23.9
   23.7
   25.5
   24.9
   Plt
   114
   100
   107
   95
   Cr
   0.9
   0.7
   0.7
   0.7
   Glucose
   152
   110
   61
   107
   Other labs: PT / PTT / INR:31.2/51.4/3.1, CK / CKMB / Troponin-T:59//,
   ALT / AST:97/242, Alk Phos / T Bili:71/28.7, Amylase / Lipase:45/14,
   Differential-Neuts:62.0 %, Band:0.0 %, Lymph:14.0 %, Mono:15.0 %,
   Eos:8.0 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.9
   g/dL, LDH:355 IU/L, Ca++:9.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 CRYPTOGENIC CIRRHOSIS
   -numbers worsening
   -workup underway for potential etiologies of note:
   -Copper level elevated - no kayser Fleischer rings on exam, further
   investigating of Wilsons as potential cause
   -liver bx
   -Liver service following
   -workup for transplant
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -improved today
 RECTAL VARICES
   -Flex sig, injection of varices
   -hct stable; cont serial hct
   -Liver service following
   -Keep INR <2
Anemia due to blood loss
 ? Vaginal bleeding
   -? fistula vs. endometriosis
   -transvag US to assess
Sepsis
   -Received full abx course for inital E Coli bacteremia c/b SBP
   For remainder of plan, please see resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-19**] 10:24 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   20 Gauge - [**2126-10-17**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Patient is critically ill.
   Total time spent: 40minutes

2126-10-20 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Liver: Goal INR < 2, check ceruloplasmin, start TF, complete
   tranplant eval and transfer to floor when stable.
   - continues to have bleeding, received 3 units pRBC, several of 4 of
   FFP
   - ordered transvaginal u/s
   - new O2 requirement due to blood product resucitation, UOP declining
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-20**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 98 (93 - 105) bpm
   BP: 118/55(70) {116/43(61) - 135/66(78)} mmHg
   RR: 28 (18 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.8 kg (admission): 98.4 kg
   Height: 63 Inch
           Total In:
                                                                  4,215 mL
                                                                  1,438 mL
   PO:
                                                                    380 mL
           TF:
                                                                    191 mL
                                                                    152 mL
   IVF:
                                                                    340 mL
                                                                    118 mL
   Blood products:
                                                                  2,305 mL
                                                                    568 mL
   Total out:
                                                                  1,135 mL
                                                                    255 mL
   Urine:
                                                                  1,135 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,080 mL
                                                                  1,185 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Cardiovascular: Gen: NAD, awake and responding to questions, but
   inappropriately, confirmed with interpreter.
   CV: Nl S1 and S2
   Lungs: crackles at bases, Increased respiratory distress
   Abd: soft, ND
   Ext 1+ edema bilatearlly
   No asterexis
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   69 K/uL
   8.5 g/dL
   111 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.4 mEq/L
   44 mg/dL
   109 mEq/L
   143 mEq/L
   23.3 %
   13.1 K/uL
        [image002.jpg]
                            [**2126-10-17**]  06:52 PM
                            [**2126-10-17**]  11:32 PM
                            [**2126-10-18**]  03:41 AM
                            [**2126-10-18**]  03:52 PM
                            [**2126-10-19**]  01:54 AM
                            [**2126-10-19**]  05:37 AM
                            [**2126-10-19**]  04:03 PM
                            [**2126-10-19**]  07:23 PM
                            [**2126-10-20**]  12:11 AM
                            [**2126-10-20**]  03:24 AM
   WBC
   7.5
   8.2
   11.4
   11.8
   13.1
   Hct
   23.7
   24.0
   23.9
   23.7
   25.5
   24.9
   23.5
   23.1
   25.5
   23.3
   Plt
   107
   95
   83
   75
   69
   Cr
   0.7
   0.7
   0.8
   0.8
   Glucose
   61
   107
   150
   111
   Other labs: PT / PTT / INR:22.3/38.8/2.1, CK / CKMB / Troponin-T:59//,
   ALT / AST:88/189, Alk Phos / T Bili:80/31.3, Amylase / Lipase:45/14,
   Differential-Neuts:75.7 %, Band:0.0 %, Lymph:16.3 %, Mono:5.3 %,
   Eos:2.4 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.9
   g/dL, LDH:425 IU/L, Ca++:9.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR - not available for view
   Microbiology: no new micro
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices
   initially presended with bloody diarrhea and fevers, developed apparent
   septic shock from E Coli bacteremia and respiratory failure now s/p
   extubation.  Now with worsening liver failure, receiving tranplant
   workup and new onset rectal and vaginal bleeding.
   #Bleeding - Flex sigmoidoscopy showed rectal varices were injected.
   Active bleeding, Hct trending down.  Last INR remains at 2.1.
   Possible sources for her bleed: given liver disease that has likely
   worsened over past week: esophageal varices (known), portal
   gastropathy, other varices (rectal), polyps;  vaginal bleeding may be
   [**1-28**] to mucosal bleeding, endometrial bleeding, or rectovaginal fistula
   (unlikely given recent scope).  Currently receiving conservative
   management.
   -Would check HCT q4 hrs today and transfuse if Hct < 25 given active
   bleeding, transfusing slowly as she is starting to become volume
   overloaded
   -F/u coags  q4, FFP to maintain nl INR
   - daily vitamine K
   - transvaginal u/s
   - Maintain active type and screen
   -F/u liver recs, discuss other options for management such as TIPS,
   repeat flex sig and banding or clipping of varices, surgical
   intervention if she continues to bleed
   # Cryptogenic cirrhosis: LFTs, t bili, and coags have overall increased
   over the past week.  Unclear why hepatic function has worsened but
   differential includes obstruction, hepatic congestion, ischemic insult
   in setting of sepsis.    Now becoming more encephalopathic.
   - lactulose 15 tid, uptitrated to maintain BM.
   - f/u ceruloplasmin
   -hold nadolol, in setting of recent bleed.
   - continue furosemide, and spironolactone
   -unclear by my eye exam if kayser [**Last Name (un) **] rings present, will d/w Dr.
   [**Last Name (STitle) 1174**]
   - liver biopsy when indicated by liver team
   - tranplant workup requires mammography and pap smear
   -Follow serologies
   -Follow Liver recs
   # Hypertension - BPs were stable 110 - 130 systolic, in setting of held
   antihypertensives.  concerning and would hold all blood pressure
   lowering agents.
   - holding labetolol 100bid
   - on lasix and spirinolactone
    # Sepsis
 Continue to treat her inital E Coli bacteremia c/b SBP,
   treatment course complete.
   # FEN:  TF, Daily lytes.  Free water flushes.
   # Access: L IJ
   #  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   #  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-20 09:55:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Sepsis, GIB, cirrhosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   -cont to put out significant blood from rectum
   -cont vaginal bleeding though at much lower rate than rectal
   -3 units pRBC, mult units FFP
   -new O2 requirement
   -UOP declining
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-20**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 103 (93 - 105) bpm
   BP: 127/57(75) {116/43(61) - 135/66(78)} mmHg
   RR: 26 (18 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.8 kg (admission): 98.4 kg
   Height: 63 Inch
           Total In:
                                                                  4,215 mL
                                                                  1,827 mL
   PO:
                                                                    380 mL
           TF:
                                                                    191 mL
                                                                    152 mL
   IVF:
                                                                    340 mL
                                                                    147 mL
   Blood products:
                                                                  2,305 mL
                                                                    928 mL
   Total out:
                                                                  1,135 mL
                                                                    315 mL
   Urine:
                                                                  1,135 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,080 mL
                                                                  1,512 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   69 K/uL
   111 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.4 mEq/L
   44 mg/dL
   109 mEq/L
   143 mEq/L
   23.3 %
   13.1 K/uL
        [image002.jpg]
                            [**2126-10-17**]  06:52 PM
                            [**2126-10-17**]  11:32 PM
                            [**2126-10-18**]  03:41 AM
                            [**2126-10-18**]  03:52 PM
                            [**2126-10-19**]  01:54 AM
                            [**2126-10-19**]  05:37 AM
                            [**2126-10-19**]  04:03 PM
                            [**2126-10-19**]  07:23 PM
                            [**2126-10-20**]  12:11 AM
                            [**2126-10-20**]  03:24 AM
   WBC
   7.5
   8.2
   11.4
   11.8
   13.1
   Hct
   23.7
   24.0
   23.9
   23.7
   25.5
   24.9
   23.5
   23.1
   25.5
   23.3
   Plt
   107
   95
   83
   75
   69
   Cr
   0.7
   0.7
   0.8
   0.8
   Glucose
   61
   107
   150
   111
   Other labs: PT / PTT / INR:22.3/38.8/2.1, CK / CKMB / Troponin-T:59//,
   ALT / AST:88/189, Alk Phos / T Bili:80/31.3, Amylase / Lipase:45/14,
   Differential-Neuts:75.7 %, Band:0.0 %, Lymph:16.3 %, Mono:5.3 %,
   Eos:2.4 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.9
   g/dL, LDH:425 IU/L, Ca++:9.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 CRYPTOGENIC CIRRHOSIS
   -LFTs, t bili, and coags have continued to worsen
   -increasingly encephalopathic
   -workup of etiology of cirrhosis underway:
      -elevated copper level, ceruloplasmin sent.  No kayser Fleischer
   rings visible.
      -imaging, likely bx
     -also potentially related to ischemic insult in setting of sepsis
   - continue furosemide, and spironolactone
   - transplant workup;  tx team following

 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -increasingly encephalopathic
   -cont lactulose

 FLUID STATUS
   -appears fluid overloaded

 RECTAL VARICES
   -Flex sig, varices injected
   -Liver service following
   -Keep INR <2
   - nadolol on hold
   -serial hct
 Hypernatremia
Anemia due to blood loss
 ? Vaginal bleeding
   -? fistula vs. endometriosis
   -transvag US to assess

Sepsis
   -Received full abx course for inital E Coli bacteremia c/b SBP
   -hemodynamic picture improved
    For remainder of plan, please see resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition : ICU
   Patient is critically ill.
   Total time spent: 35 minutes

2126-10-21 08:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - liver to scope
   - lasix 40mg, 80mg with improvement in respiratory status, 40mg given
   with FFP
   - FFP x 1 units, INR 2.4 -> 2.7
   - Hct stable, no pRBC given
   - Got transvaginal u/s --> limited exam, endometrial stripe measuring
   1.4 cm (abnormal), extensive ascites, ovaries not visualized
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-10-20**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-21**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 105 (98 - 107) bpm
   BP: 121/49(65) {113/49(64) - 147/62(80)} mmHg
   RR: 20 (17 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.8 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  3,074 mL
                                                                    198 mL
   PO:
             TF:
                                                                    207 mL
                                                                     77 mL
   IVF:
                                                                    472 mL
                                                                    122 mL
   Blood products:
                                                                  1,266 mL
   Total out:
                                                                  1,555 mL
                                                                    780 mL
   Urine:
                                                                  1,555 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,519 mL
                                                                   -582 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   67 K/uL
   8.5 g/dL
   93 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.4 mEq/L
   41 mg/dL
   109 mEq/L
   144 mEq/L
   24.0 %
   12.7 K/uL
        [image002.jpg]
                            [**2126-10-19**]  04:03 PM
                            [**2126-10-19**]  07:23 PM
                            [**2126-10-20**]  12:11 AM
                            [**2126-10-20**]  03:24 AM
                            [**2126-10-20**]  10:14 AM
                            [**2126-10-20**]  02:01 PM
                            [**2126-10-20**]  04:09 PM
                            [**2126-10-20**]  05:59 PM
                            [**2126-10-21**]  12:55 AM
                            [**2126-10-21**]  04:19 AM
   WBC
   11.4
   11.8
   13.1
   12.7
   Hct
   23.5
   23.1
   25.5
   23.3
   24.8
   24.6
   24.9
   24.8
   24.0
   Plt
   83
   75
   69
   67
   Cr
   0.8
   0.8
   0.8
   0.7
   Glucose
   150
   111
   98
   93
   Other labs: PT / PTT / INR:27.4/39.9/2.7, CK / CKMB / Troponin-T:59//,
   ALT / AST:88/189, Alk Phos / T Bili:80/31.3, Amylase / Lipase:45/14,
   Differential-Neuts:75.7 %, Band:0.0 %, Lymph:16.3 %, Mono:5.3 %,
   Eos:2.4 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.9
   g/dL, LDH:425 IU/L, Ca++:9.7 mg/dL, Mg++:2.4 mg/dL, PO4:2.4 mg/dL
   Imaging: Transvaginal u/s -- Limited examination demonstrates an
   endometrial stripe measuring 1.4 cm.
   If the patient is postmenopausal, this is an abnormal finding, and
   differential diagnosis includes endometrial hyperplasia, endometrial
   polyp, or
   endometrial carcinoma and clinical correlation with biopsy is
   recommended.
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices
   initially presended with bloody diarrhea and fevers, developed apparent
   septic shock from E Coli bacteremia and respiratory failure now s/p
   extubation.  Now with worsening liver failure, receiving tranplant
   workup and new onset rectal and vaginal bleeding.
   1. Bleeding - Flex sigmoidoscopy showed rectal varices were injected.
   Hct holding steady in 24's and last INR trending upwards, currently
   2.7.  Possible sources for her bleed: given liver disease that has
   likely worsened over past week: esophageal varices (known), portal
   gastropathy, other varices (rectal), polyps;  vaginal bleeding may be
   [**1-28**] to mucosal bleeding, endometrial bleeding, or rectovaginal fistula
   (unlikely given recent scope).  Currently receiving conservative
   management.
   - Continue q4hr Hct checks and transfusions for Hct <25. Slow
   transfusions given volume overload, and Lasix given with blood products
   - F/u coags  q4, FFP to maintain nl INR
   - Daily vitamine K
   - Transvaginal u/s showing abnormal stripe, could be possible source of
   ongoing blood loss
   - Maintain active type and screen
   -F/u liver recs, discuss other options for management such as TIPS,
   repeat flex sig and banding or clipping of varices, surgical
   intervention if she continues to bleed
    2. Cryptogenic cirrhosis: LFTs, Tbili, and coags have overall
   increased over the past week.  Unclear why hepatic function has
   worsened but differential includes obstruction, hepatic congestion,
   ischemic insult in setting of sepsis.    Now becoming more
   encephalopathic.
   - lactulose 15 tid, uptitrated to maintain BM.
   - f/u ceruloplasmin, still pending
   -hold nadolol, in setting of recent bleed.
   - continue furosemide, and spironolactone
   -unclear by my eye exam if kayser [**Last Name (un) **] rings present, will d/w Dr.
   [**Last Name (STitle) 1174**]
   - liver biopsy when indicated by liver team
   - tranplant workup requires mammography and pap smear
   -Follow serologies
   -Follow Liver recs
   #Respiratory distress
  a function of volume overload with fluid
   rescuitation
   - avoid IVF
   - Give lasix with blood products as BP allows
   - goal is to avoid repeat intubation
   # Hypertension - BPs were stable 110 - 130 systolic, in setting of held
   antihypertensives.  concerning and would hold all blood pressure
   lowering agents.
   - holding labetolol 100bid
   - on lasix and spirinolactone
   #Hypernatremia
 Na = 143.  Will continue free water flushes to treat.
    # Sepsis
 Continue to treat her inital E Coli bacteremia c/b SBP,
   treatment course complete.
   # FEN:  TF, Daily lytes.  Free water flushes.
   # Access: L IJ
   #  Prophylaxis: pneumoboots, bowel regimen, IV PPI
   #  Code Status: Full (confirmed with family)
   #.  Communication - husband, children
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-20**] 06:30 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-22 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - did not get scoped yesterday as no active bleeding
   - start octreotide gtt
   - change cipro to 250 qday per liver recs
   - Gyn consult for endometrial stripe, to do endometrial Bx tomorrow
   --> need to get stirrup stretcher from ED tomorrow early am
   - give some FFP with Lasix --> repeat Hct stable, Plts down to 57,
   coags .........
   - liver recs repeat infectious w/u, consider u/s guided para if WBC's
   increase, daily LFT's
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2126-10-22**] 01:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-22**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 92 (82 - 107) bpm
   BP: 130/61(75) {104/41(55) - 139/66(81)} mmHg
   RR: 19 (16 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.8 kg (admission): 98.4 kg
   Height: 63 Inch
           Total In:
                                                                  1,947 mL
                                                                    695 mL
   PO:
           TF:
                                                                    576 mL
                                                                    269 mL
   IVF:
                                                                    292 mL
                                                                    100 mL
   Blood products:
                                                                    269 mL
                                                                    265 mL
   Total out:
                                                                  2,390 mL
                                                                  1,150 mL
   Urine:
                                                                  2,390 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -443 mL
                                                                   -455 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Gen: Pt speaking [**Location 5534**], elderly well-nourished female appears
   uncomfortable but NAD, appears slightly more lethargic than yesterday,
   daughter at bedside notes that mother seems as usual to her  [**Name (NI) 1824**]:
   [**Name (NI) **], L IJ in place, nasal cannula for O2 in place, sclera markedly
   icteric CV: RRR, II/VI systolic murmur  Lungs: Slight crackles at bases
   b/l Abdom: + BS, soft, mildly distended, moderate shifting dullness, NT
   Extrem: 1+ pitting edema b/l in lower extremities
   Labs / Radiology
   64 K/uL
   8.5 g/dL
   131 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.3 mEq/L
   38 mg/dL
   111 mEq/L
   146 mEq/L
   24.3 %
   9.3 K/uL
        [image002.jpg]
                            [**2126-10-20**]  03:24 AM
                            [**2126-10-20**]  10:14 AM
                            [**2126-10-20**]  02:01 PM
                            [**2126-10-20**]  04:09 PM
                            [**2126-10-20**]  05:59 PM
                            [**2126-10-21**]  12:55 AM
                            [**2126-10-21**]  04:19 AM
                            [**2126-10-21**]  10:32 AM
                            [**2126-10-21**]  06:07 PM
                            [**2126-10-22**]  03:47 AM
   WBC
   13.1
   12.7
   10.9
   9.3
   Hct
   23.3
   24.8
   24.6
   24.9
   24.8
   24.0
   25.0
   25.0
   24.3
   Plt
   69
   67
   57
   64
   Cr
   0.8
   0.8
   0.7
   0.7
   Glucose
   111
   98
   93
   131
   Other labs: PT / PTT / INR:25.2/38.8/2.4, CK / CKMB / Troponin-T:59//,
   ALT / AST:90/182, Alk Phos / T Bili:114/35.8, Amylase / Lipase:45/14,
   Differential-Neuts:75.7 %, Band:0.0 %, Lymph:16.3 %, Mono:5.3 %,
   Eos:2.4 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.3
   g/dL, LDH:425 IU/L, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices
   initially presended with bloody diarrhea and fevers, developed apparent
   septic shock from E Coli bacteremia and respiratory failure now s/p
   extubation.  Now with worsening liver failure, receiving transplant
   workup by Hepatology and new onset rectal and vaginal bleeding.
   1. Bleeding--Flex sigmoidoscopy showing rectal varices, were injected.
   Hct holding steady in 24's and last INR 2.4. Liver consulted yesterday,
   recommended octreotide gtt.
   --Hct currently stable for several days, will trend Hct
s qday
   --Transfuse for signs of active bleeding or large drop in Hct
   --Lasix with all blood products
   --Coags improved with yesterday's FFP, 2.7 --> 2.4, no plan for FFP for
   now unless patient bleeds or INR>3.
   --Maintain active T&S
   --Continue daily Vit K
   --Gyn consulted, plan to perform endometrial biopsy today to assess if
   source of bleed, ?malignancy as part of transplant workup
   --Continue octreotide gtt for rectal varices (day#[**1-31**])
    2. Cryptogenic cirrhosis: LFTs, Tbili, and coags have overall
   increased over the past week, mental status also appears to be
   declining today. Flex sig on Friday showing rectal varices which were
   injected with glue. TIPS contraindicated due to high MELD score.
   Currently being worked up by Liver for transplant. Liver recs
   ?infection as source of increasing bilirubin, but today patient had
   downward trend in WBC count, afebrile, making infectious cause less
   likely.
   --Start Octrotide gtt
   --Lactulose 30mL q6hrs, titrate to for [**3-31**] BM
s daily
   --T. Bili trending up from 31.3 -->35
   --Continue Rifaxamin
   --F/u ceruloplasmin and copper, still pending
   --Cipro 250mg daily per liver recs for SBP prophylaxis
   --Continue furosemide, and spironolactone
   --Tranplant workup requires mammography and pap smear, can be done as
   outpt
   --Continue to trend LFT
s daily
   3. Increased endometrial stripe
Unclear whether this represents normal
   physiologic response to increased estrogen in setting of cirrhosis or
   if this is pathologic. Also unclear if this is source of bleeding.
   --S/p Gyn consult (appreciated), who performed endometrial biopsy today
   at bedside.
   -- F/u endometrial biopsy
   4. Fluid overload
   --Lasix with all blood products
   --Negative fluid balance achieved yesterday, pt negative 443 mL
   yesterday
   --Continue maintenance 20mg PO Lasix qday and will give extra 80mg IV
   Lasix today
   --Continue Spironolactone 50mg PO qday
   5. Hypernatremia
   --Free water flushes
   FEN:  TF, Daily lytes.  Free water flushes.
   Access: L IJ
   Prophylaxis: pneumoboots, bowel regimen, IV PPI
   Code Status: Full (confirmed with family)
   Communication - husband, children
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-20**] 06:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending liver transplant or improvement in clinical
   status.

2126-10-23 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - endometrial biopsy done by OB/GYN. Concerned for possible malignancy
   given history of bleeding over several years.
   - Being worked up for transplant - will list if endometrial biopsy
   negative. Needs clinical breast exam and pap.  Patient asked to differ
   until tomorrow as she was tired and had already gotten biopsy today.
   Will need PFTs when able.
   - started ursodiol 300mg TID per liver.
   - also wanted abdominal U/S and infectious work-up (new pan-culture)
   - 80mg IV lasix bolus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2126-10-22**] 08:08 AM
   Midazolam (Versed) - [**2126-10-22**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-10-23**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 89 (80 - 101) bpm
   BP: 126/67(79) {97/54(72) - 151/101(104)} mmHg
   RR: 20 (13 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  5,061 mL
                                                                    618 mL
   PO:
                                                                    960 mL
             TF:
                                                                    946 mL
                                                                    305 mL
   IVF:
                                                                    300 mL
                                                                     63 mL
   Blood products:
                                                                    265 mL
   Total out:
                                                                  3,150 mL
                                                                    490 mL
   Urine:
                                                                  3,150 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,911 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Awake, alert, appropriate. Difficult to understand
   CTAB no w/c/r/r
   S1 S2 clear with systolic murmur at RUSB and LUSB
   Abd not tender
   BLE edema unchanged from previous PE, RLE with wound wrapped in Kerlex
   Labs / Radiology
   65 K/uL
   8.7 g/dL
   117 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   38 mg/dL
   109 mEq/L
   142 mEq/L
   26.1 %
   8.1 K/uL
        [image002.jpg]
                            [**2126-10-20**]  02:01 PM
                            [**2126-10-20**]  04:09 PM
                            [**2126-10-20**]  05:59 PM
                            [**2126-10-21**]  12:55 AM
                            [**2126-10-21**]  04:19 AM
                            [**2126-10-21**]  10:32 AM
                            [**2126-10-21**]  06:07 PM
                            [**2126-10-22**]  03:47 AM
                            [**2126-10-22**]  04:49 PM
                            [**2126-10-23**]  03:47 AM
   WBC
   12.7
   10.9
   9.3
   9.2
   8.1
   Hct
   24.6
   24.9
   24.8
   24.0
   25.0
   25.0
   24.3
   25.6
   26.1
   Plt
   67
   57
   64
   67
   65
   Cr
   0.8
   0.7
   0.7
   0.7
   0.6
   Glucose
   98
   93
   131
   126
   117
   Other labs: PT / PTT / INR:29.2/42.9/2.9, CK / CKMB / Troponin-T:59//,
   ALT / AST:89/190, Alk Phos / T Bili:125/34.9, Amylase / Lipase:45/14,
   Differential-Neuts:75.7 %, Band:0.0 %, Lymph:16.3 %, Mono:5.3 %,
   Eos:2.4 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.3
   g/dL, LDH:428 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: Endometrial Bx pending
   UCx, BCx, Wound Cx pending
   Toxo IgG positive
   CMV IgG positive, IgM negative
   EBV c/w past infection
   Assessment and Plan
   57 year old lady w/ PMhx of cryptogenic cirrhosis cx by varices
   initially presended with bloody diarrhea and fevers, developed apparent
   septic shock from E Coli bacteremia and respiratory failure now s/p
   extubation.  Now with worsening liver failure, receiving transplant
   workup by Hepatology and new onset rectal and vaginal bleeding.
   1. Bleeding--Flex sigmoidoscopy showing rectal varices, were injected.
   Hct holding steady in 26.1 this am and last INR increasing at 2.9
   --F/u endometrial Bx
   --Hct currently stable for several days, will trend Hct
s [**Year (4 digits) **]
   --Transfuse for signs of active bleeding or large drop in Hct
   --Lasix with all blood products
   --Coags worse today, did not receive any FFP yesterday. INR goal for
   transfusions = 3.0. Will repeat INR this pm and transfuse prn.
   --Maintain active T&S, is currently good until [**2126-10-23**]
   --Continue daily Vit K
   --Continue octreotide gtt for rectal varices (day#[**2-28**])
    2. Cryptogenic cirrhosis: LFTs, Tbili, and coags have overall
   increased over the past week, mental status also appears to be
   declining today. Flex sig on Friday showing rectal varices which were
   injected with glue. TIPS contraindicated due to high MELD score.
   Currently being worked up by Liver for transplant. Liver recs
   ?infection as source of increasing bilirubin, but today patient had
   downward trend in WBC count, afebrile, making infectious cause less
   likely.
   --Continues on Octrotide gtt
   --Lactulose 30mL q6hrs, titrate to for [**3-31**] BM
s daily
   --T. Bili holding steady around 35
   --Continue Rifaxamin
   --Ceruloplasmin has come back low 13 (18-53)
   --Cipro 250mg daily per liver recs for SBP prophylaxis
   --Continue furosemide, and spironolactone
   --Tranplant workup requires breast exam (instead of mammography) and
   pap smear, can be done as outpt
   --Continue to trend LFT
s daily
   3. Increased endometrial stripe
Unclear whether this represents normal
   physiologic response to increased estrogen in setting of cirrhosis or
   if this is pathologic. Also unclear if this is source of bleeding.
   --S/p Gyn consult (appreciated), who performed endometrial biopsy today
   at bedside.
   -- F/u endometrial biopsy
   4. Fluid overload
   --Lasix with all blood products
   --Positive fluid balance yesterday, 2L
   --Pt is very positive for length of stay
   --Pt has been getting 20mg PO [**Month/Day (1) **] and occasional 80mg IV boluses
   will increase to PO Lasix 160 [**Last Name (LF) **], [**First Name3 (LF) **] also increase Spironolactone
   to 100mg [**First Name3 (LF) **]
   FEN:  Regular heart healthy diet, daily lytes
   Access: L IJ
   Prophylaxis: pneumoboots, bowel regimen, IV PPI
   Code Status: Full (confirmed with family)
   Communication - husband, children
   [**Name (NI) 11052**] stable through the am can likely call out. Will need
   continued liver transplant workup, including breast exam and pap smear
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-10-22**] 09:32 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-10-23 11:50:00 Physician Attending Progress Note
Chief Complaint: Hepatic failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Minimal vaginal bleeding since endometrial bx
   24 Hour Events:
 URINE CULTURE - At [**2126-10-22**] 09:39 PM
 WOUND CULTURE - At [**2126-10-22**] 09:39 PM
   right leg wound
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: Edema, Orthopnea
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation, mild LLQ pain
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**12-28**] Minimal
   Flowsheet Data as of  [**2126-10-23**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 94 (82 - 101) bpm
   BP: 109/76(84) {96/54(72) - 151/101(104)} mmHg
   RR: 14 (13 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.8 kg (admission): 98.4 kg
   Height: 63 Inch
             Total In:
                                                                  5,061 mL
                                                                  1,268 mL
   PO:
                                                                    960 mL
             TF:
                                                                    946 mL
                                                                    420 mL
   IVF:
                                                                    300 mL
                                                                     97 mL
   Blood products:
                                                                    265 mL
   Total out:
                                                                  3,150 mL
                                                                    705 mL
   Urine:
                                                                  3,150 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,911 mL
                                                                    563 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bases), (Breath Sounds: Crackles : few midinsp crackles, No(t)
   Bronchial: , No(t) Wheezes : , Diminished: bases, No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   65 K/uL
   117 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   38 mg/dL
   109 mEq/L
   142 mEq/L
   26.1 %
   8.1 K/uL
        [image002.jpg]
                            [**2126-10-20**]  02:01 PM
                            [**2126-10-20**]  04:09 PM
                            [**2126-10-20**]  05:59 PM
                            [**2126-10-21**]  12:55 AM
                            [**2126-10-21**]  04:19 AM
                            [**2126-10-21**]  10:32 AM
                            [**2126-10-21**]  06:07 PM
                            [**2126-10-22**]  03:47 AM
                            [**2126-10-22**]  04:49 PM
                            [**2126-10-23**]  03:47 AM
   WBC
   12.7
   10.9
   9.3
   9.2
   8.1
   Hct
   24.6
   24.9
   24.8
   24.0
   25.0
   25.0
   24.3
   25.6
   26.1
   Plt
   67
   57
   64
   67
   65
   Cr
   0.8
   0.7
   0.7
   0.7
   0.6
   Glucose
   98
   93
   131
   126
   117
   Other labs: PT / PTT / INR:29.2/42.9/2.9, CK / CKMB / Troponin-T:59//,
   ALT / AST:89/190, Alk Phos / T Bili:125/34.9, Amylase / Lipase:45/14,
   Differential-Neuts:75.7 %, Band:0.0 %, Lymph:16.3 %, Mono:5.3 %,
   Eos:2.4 %, Fibrinogen:138 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:3.3
   g/dL, LDH:428 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERTENSION, BENIGN
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   She looks gradually more fatigued and lethargic.  Bili may have
   plateaued but LFTs remain signif elevated. Transplant eval is on hold
   until results of endometrial bx return.  No additional GI bleeding -
   INR is drifting up but slowly. Will hold on additional FFP for now.
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2126-10-1**] 02:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes